2165-06-19 00:17:00 Physician Attending Progress Note
Chief Complaint: worsening mental status, bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61M with mult myeloma - admitted 3 months ago for mini-BMT. Admitted to
   ICU because of poor mental status and worsening hypoxemia and resp
   distress in the setting of new bacteremia and worsening pneumonia.
   Blood cultures positive over past 2 days for GPCs. Midline pulled
   yesterday and right IJ placed. CXR with new infiltrates on left.
   Developed tachycardia today because unable to take rate controlling
   agents. Also, guaiac pos stool and Hct fell so given transfusion.
   24 Hour Events:
   Patient unable to provide history: poor mental status
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2165-6-18**] 08:06 PM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-6-18**] 08:19 PM
   Furosemide (Lasix) - [**2165-6-18**] 11:15 PM
   Other medications:
   Changes to medical and family history:
   multiple myeloma - failed auto-BMT '[**60**], mini-BMT [**2-21**]
   GVHD colon
   paraflu pna, other HAPs, bacteremia
   resp failure
   ARF
   PE
   iliopsoas hematoma
   GIB due to duod ulcer
   chronic AF
   anasraca
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-19**] 12:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 142 (140 - 157) bpm
   BP: 145/95(103) {96/67(73) - 166/99(131)} mmHg
   RR: 26 (4 - 35) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 22 (22 - 22)mmHg
   Total In:
                                                                    273 mL
   PO:
   TF:
   IVF:
                                                                    273 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    240 mL
   Urine:
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: 50% FM
   SpO2: 94%
   ABG: 7.44/40/74/28/2
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: anasarca
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, not oriented to place, time
   Labs / Radiology
   8.3 g/dL
   33 K/uL
   160 mg/dL
   1.7 mg/dL
   28 mEq/L
   4.0 mEq/L
   85 mg/dL
   109 mEq/L
   146 mEq/L
   25.1 %
   2.9 K/uL
        [image002.jpg]
                             [**2165-6-18**]  08:44 PM
                             [**2165-6-18**]  10:35 PM
   WBC
   2.9
   Hct
   25.1
   Plt
   33
   Cr
   1.7
   TCO2
   28
   Glucose
   160
   Other labs: PT / PTT / INR:13.6/31.6/1.2, ALT / AST:50/29, Alk Phos / T
   Bili:196/1.5, Amylase / Lipase:21/14, Lactic Acid:1.2 mmol/L, LDH:323
   IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR worsening left infiltrates
   Microbiology: blood cultures + GPCs
   ECG: EKG AF
   Assessment and Plan
 BACTEREMIA / pneumonia / resp distress / hypoxemia / altered mental
   status - lines have been changed, continue antibiotics with
   linezolid+aztreonam, CPAP as needed
 ATRIAL FIBRILLATION (AFIB) - will rate control with dilt gtt and
   metroprolol as needed, no anti-coagulation
   renal insufficiency - stable, follow
   anemia, GIB - transfuse, follow Hct
   multiple myeloma, recent BMT, GVHD - cont current immunosuppressants
   and prophylaxis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2165-06-19 09:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, afib, myeloma, pneumonia,
   bacteremia, chronic renal failure, anemia, GI bleed, GVHD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient intially  on daptomycin for gram positive bacteremia. Patient
   then switched to Linezolid
   Patient's heart rate remained high through the night despite IV
   diltiazem. Metoprolol boluses also started. CVP rose to 20's.
   Respiratory rate increased through the night to the 20's. Patient give
   lasix boluses and then started on a lasix infusion. Antibiotics added
   for gram negative coverage (Aztreonam) for pneumonia. Because of
   worsening oxygenation with sats in the 70's-80's, patient was intubated
   about one hour ago. Pressure dropped with intubation. Given fliuds and
   phenylephrine transiently.
   Now on vent with VT 600, assist control, 100% oxygen, rate 16 and PEEP
   10.
   Patient transfused last night for dropping hct.
   24 Hour Events:
 MULTI LUMEN - START [**2165-6-18**] 07:10 PM
   inserted [**6-17**]
 ARTERIAL LINE - START [**2165-6-19**] 01:47 AM
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2165-6-18**] 08:06 PM
   Acyclovir - [**2165-6-19**] 12:10 AM
   Linezolid - [**2165-6-19**] 01:04 AM
   Aztreonam - [**2165-6-19**] 02:18 AM
   Infusions:
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-6-18**] 08:19 PM
   Furosemide (Lasix) - [**2165-6-19**] 02:50 AM
   Metoprolol - [**2165-6-19**] 04:13 AM
   Other medications:
   cellcept, insulin, solumendrol, magnesium, timolol, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-19**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 147 (126 - 157) bpm
   BP: 105/58(72) {97/52(68) - 142/83(279)} mmHg
   RR: 30 (4 - 35) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 18 (17 - 22)mmHg
   Total In:
                                                                    276 mL
                                                                  1,120 mL
   PO:
   TF:
   IVF:
                                                                    276 mL
                                                                    770 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    240 mL
                                                                    560 mL
   Urine:
                                                                    240 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     36 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.35/47/35/27/0
   PaO2 / FiO2: 70
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : right anterior, No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , Diminished: left hemithorax, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: , Obese
   Extremities: Right: 3+ edema, Left: 3+ edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, Oriented (to): Not able to assess, Movement: No
   spontaneous movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   31 K/uL
   184 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   84 mg/dL
   106 mEq/L
   144 mEq/L
   27.2 %
   2.9 K/uL
        [image002.jpg]
                             [**2165-6-18**]  08:44 PM
                             [**2165-6-18**]  10:35 PM
                             [**2165-6-19**]  01:29 AM
                             [**2165-6-19**]  03:32 AM
                             [**2165-6-19**]  08:14 AM
   WBC
   2.9
   2.9
   Hct
   25.1
   27.2
   Plt
   33
   31
   Cr
   1.7
   1.8
   TropT
   0.04
   0.04
   TCO2
   28
   28
   27
   Glucose
   160
   184
   Other labs: PT / PTT / INR:12.6/31.1/1.1, CK / CKMB /
   Troponin-T:28/3/0.04, ALT / AST:47/24, Alk Phos / T Bili:195/1.4,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:3.0 %,
   Lymph:2.0 %, Mono:2.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.5 mmol/L, Albumin:2.1 on [**6-17**], LDH:331 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Imaging: CXR
   [**6-18**]: Worsening density LLL - atelectasis vs infiltrate
   6 AM - bilateral alveolar infiltrates with new bilateral pleural
   effusions
   Post intubation: collapse of left lung
   Assessment and Plan
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   PNEUMONIA
   ACUTE RESPIRATORY FAILURE
   ATRIAL FIBRILLATION
   CHRONIC RENAL FAILURE
   ANEMIA
   GI BLEED
   GRAFT VS HOST DISEASE
   ====================
   Patient with acute hypoxemic respiratory failure, likely a combination
   of pneumonia and volume overload exacerbated by low serum albumin.
   Adjusting vent now to increase PEEP in effort to raise PaO2 sufficient
   to allow us to reduce FIO2 to initial goal of 0.6. CXR shows collapse
   of left lung, likely due to a mucus plug. If this does not open with
   suctioning, will need bronchoscopy later today. Will need ongoing
   diuresis; restart lasix infusion as hemodynamics allow.
   AFib is chronic with poor rate control. I am concerned that the rapid
   rate is contributing to his CHF with inadequate filling time. Will
   start esmalol drip given failure to respond to diltiazem and oral beta
   blockers.
   Creat up slightly from yesterday. Electrolytes and acid-base status
   accpetable.
   On linezolid for possible VRE with gram positive bacteremia.
   Hct up with transfusion. Continue to monitor with hx of GI bleeding. GI
   service has said in recent past that they had nothing else to offer re:
   UGI source. Possible that some of the bleeding is coming from GVHD of
   colon.
   Continues on immunosuppression for GVHD.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Arterial Line - [**2165-6-19**] 01:47 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: Discussed situation with
   patient's wife after examining patient.
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2165-06-20 11:00:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, afib,
   tachycardia, acute renal failure, acidosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient came off vasopressors during part of the night, although neo
   restarted this AM. Continues on vasopressin.
   Oxygenation varied during the night. PEEP increased to 16 with improved
   oxygenation this AM. FIO2 being reduced.
   Urine output has been acceptable. Creat is stable.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2165-6-19**] 08:30 AM
 ULTRASOUND - At [**2165-6-19**] 09:50 AM
 TRANSTHORACIC ECHO - At [**2165-6-19**] 10:30 AM
 BRONCHOSCOPY - At [**2165-6-19**] 12:24 PM
 ENDOSCOPY - At [**2165-6-19**] 12:30 PM
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2165-6-19**] 01:00 PM
   Aztreonam - [**2165-6-19**] 02:30 PM
   Atovaquone - [**2165-6-19**] 03:30 PM
   Daptomycin - [**2165-6-19**] 10:38 PM
   Voriconazole - [**2165-6-20**] 12:14 AM
   Meropenem - [**2165-6-20**] 04:35 AM
   Tobramycin - [**2165-6-20**] 09:08 AM
   Acyclovir - [**2165-6-20**] 09:30 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Vasopressin - 1.2 units/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2165-6-19**] 06:40 PM
   Pantoprazole (Protonix) - [**2165-6-20**] 07:32 AM
   Midazolam (Versed) - [**2165-6-20**] 07:43 AM
   Other medications:
   Acyclovir
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-20**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.6
C (97.9
   HR: 139 (129 - 153) bpm
   BP: 112/76(87) {81/45(58) - 137/89(196)} mmHg
   RR: 14 (0 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 15 (6 - 15)mmHg
   Total In:
                                                                  7,332 mL
                                                                  3,286 mL
   PO:
   TF:
   IVF:
                                                                  5,807 mL
                                                                  2,885 mL
   Blood products:
                                                                  1,525 mL
                                                                    281 mL
   Total out:
                                                                  1,315 mL
                                                                    915 mL
   Urine:
                                                                  1,015 mL
                                                                    565 mL
   NG:
                                                                    300 mL
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  6,017 mL
                                                                  2,371 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   Compliance: 42.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/31/122/22/0
   Ve: 8.4 L/min
   PaO2 / FiO2: 203
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 3+ edema, Left: 3+, Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Cool, poor capillary refill, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   64 K/uL
   129 mg/dL
   1.8 mg/dL
   22 mEq/L
   3.4 mEq/L
   85 mg/dL
   108 mEq/L
   142 mEq/L
   26.5 %
   1.1 K/uL
        [image002.jpg]
                             [**2165-6-19**]  04:42 PM
                             [**2165-6-19**]  06:54 PM
                             [**2165-6-19**]  08:39 PM
                             [**2165-6-19**]  10:21 PM
                             [**2165-6-19**]  10:38 PM
                             [**2165-6-20**]  12:59 AM
                             [**2165-6-20**]  03:46 AM
                             [**2165-6-20**]  04:19 AM
                             [**2165-6-20**]  06:09 AM
                             [**2165-6-20**]  08:28 AM
   WBC
   1.1
   Hct
   24.4
   30.1
   26.5
   Plt
   101
   64
   Cr
   1.8
   1.8
   1.8
   TropT
   0.03
   TCO2
   26
   27
   28
   25
   24
   24
   22
   Glucose
   136
   134
   129
   Other labs: PT / PTT / INR:13.5/31.6/1.2, CK / CKMB /
   Troponin-T:23/3/0.03, ALT / AST:47/24, Alk Phos / T Bili:154/1.4,
   Amylase / Lipase:21/14, Differential-Neuts:78.0 %, Band:6.0 %,
   Lymph:10.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.8 mmol/L, LDH:338 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   HYPOTENSION
   ACIDOSIS
   PANCYTOPENIA
   GI BLEED
   ====================================
   We are making some headway with his oxygenation. Based on his body
   habitus, suspect that pleural pressures are elevated and we will
   probably need to continue with high levels of PEEP for now. Attempting
   to get FIO2 down to or below 60%.
   With increase in PEEP, will need ongoing volume resuscitation.
   Continues to be hypotensive and capillary refill is delayed today.
   Would like to stop Neo and try leveophed, with careful monitoring re:
   heart rate. If tachycardia worsens, will need to go back to
   phenylephrine. Goal is to maximize oxygen delivery.
   Tachycardia persists despite amiodarone drip. Replete potassium.
   Hct down a bit today. Not yet at transfusion threshold. Stool brown and
   guiaic positive. OG tube still showing coffee grounds. Transfuse as
   need to keep hct > 25
   Antiobiotics continue.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Arterial Line - [**2165-6-19**] 01:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-06-21 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -received 4L fluid for decreased UOP (10cc/hr)
   -s/p 3 units pRBCs for hct (26.5 -> 29.2), (29.2->27.4), (28.4->31.1)
   -per BMT recs, decreased steroids to 30mg [**Hospital1 7**]
   -back on levophed 0.02mcg/kg/min for SBPs 70s
   - increased FiO2 .5->.7, now 0.6 and PEEP to 14->16 for PO2 68
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2165-6-19**] 01:00 PM
   Aztreonam - [**2165-6-19**] 02:30 PM
   Atovaquone - [**2165-6-19**] 03:30 PM
   Voriconazole - [**2165-6-20**] 12:14 AM
   Tobramycin - [**2165-6-20**] 08:28 PM
   Daptomycin - [**2165-6-20**] 11:00 PM
   Acyclovir - [**2165-6-21**] 12:00 AM
   Meropenem - [**2165-6-21**] 04:06 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2165-6-20**] 05:10 PM
   Pantoprazole (Protonix) - [**2165-6-20**] 08:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-21**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.8
C (96.5
   HR: 145 (130 - 152) bpm
   BP: 128/79(94) {85/59(68) - 160/102(120)} mmHg
   RR: 14 (0 - 16) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 10 (8 - 18)mmHg
   Mixed Venous O2% Sat: 60 - 60
                                Total In:
                                                                  6,884 mL
                                                                  2,891 mL
   PO:
                                TF:
   IVF:
                                                                  6,073 mL
                                                                  2,541 mL
   Blood products:
                                                                    631 mL
                                                                    350 mL
   Total out:
                                                                  1,276 mL
                                                                    122 mL
   Urine:
                                                                    676 mL
                                                                    122 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  5,608 mL
                                                                  2,769 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 28 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.37/35/68/20/-3
   Ve: 9.3 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General- Intubated, sedated, anasarca in NAD
   Lungs- CTAB
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, warm
   Labs / Radiology
   32 K/uL
   10.7 g/dL
   159 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.0 mEq/L
   82 mg/dL
   110 mEq/L
   142 mEq/L
   31.1 %
   1.5 K/uL
        [image002.jpg]
                             [**2165-6-20**]  03:46 AM
                             [**2165-6-20**]  04:19 AM
                             [**2165-6-20**]  06:09 AM
                             [**2165-6-20**]  08:28 AM
                             [**2165-6-20**]  11:26 AM
                             [**2165-6-20**]  02:57 PM
                             [**2165-6-20**]  04:20 PM
                             [**2165-6-20**]  07:55 PM
                             [**2165-6-21**]  03:55 AM
                             [**2165-6-21**]  05:27 AM
   WBC
   1.1
   1.5
   Hct
   26.5
   29.2
   27.4
   28.7
   31.1
   Plt
   64
   32
   Cr
   1.8
   1.9
   1.9
   1.8
   TropT
   0.03
   0.04
   TCO2
   24
   24
   22
   20
   21
   Glucose
   129
   168
   158
   159
   Other labs: PT / PTT / INR:12.9/31.4/1.1, CK / CKMB /
   Troponin-T:25/5/0.04, ALT / AST:47/24, Alk Phos / T Bili:136/1.4,
   Amylase / Lipase:21/14, Differential-Neuts:78.0 %, Band:6.0 %,
   Lymph:10.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.6 g/dL, LDH:322 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.0 mg/dL
   .
   Digoxin level 0.5
   Tobra peak and trough pending
   .
   Mixed venous O2 sat 60
   .
   UPEP pending
   BAL galactomannan pending
   Serum galactomannan, beta-d-glucan, chimerism and light chains pending
   .
   Urine Fena: 0.14
   .
   CXR: persistent bilateral infiltrates, left greater than right.
   Probable LLL atelectasis, but LLL bronchus is visualized arguing
   against a central mucus plug.
   Assessment and Plan
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Septic shock: pt with enterococcus and GNR bacteremia
   -Continue daptomycin for VRE
   -Continue [**Name (NI) 9261**] (pt now desensitized)
   -Continue Tobramycin for double pseudomonas coverage
   -Continue vasopressin and norepinephrine to increase perfusion as
   needed for MAP>60
   -continue IVF PRN with goal CVP = 20
   -F/u cultures and speciation
   .
   # Respiratory distress: Pt continues on ventilator AC; FiO2 decreased
   to 50% this morning after initial change to 70%.  CXR this am showing
   LLL atelectasis that may have been cause of pO2 drop.
   -Continue ABGs to evaluate PaO2
   -Continue antibiotics as above
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.  Currently on digoxin
   with no improvement.
   -continue digoxin, level subtherapeutic
   -Monitor HR
 if increases on norepinephrine, will change back to
   phenylephrine
   .
   # Anemia: Pt with 8cm ulcer seen on EGD.  s/p 3 units PRBCs yesterday
   - Hct checks q6 hours until stable
   -Transfuse to keep Hct>30
   - Cont PPI IV
   - Guaiac stools
   -IR Embolization pending improvement in clinical status (contact: [**Name (NI) **]
   [**Name (NI) 1313**] [**Pager number 9262**])
   .
   # Oliguria/anuria:  Likely prenal cause of low UOP given low CVPs and
   Fena<1, will continue to bolus IVFs to maintain UOP>30 cc/hr.  Concern
   for possible ATN given periods of hypotension and septic shock.  Also
   worry about renal damage from tobramycin given previous renal failure
   from gentamicin.
   -f/u urine sediment
   - monitor UOP
   - replete with IVFs, PRBCs as needed
   .
   # Goals of care: d/w family yesterday re: pt
s status. Family is aware
   of condition. Given that pt has survived through multiple prior
   episodes, family would like to continue aggressive care at this time.
   -Plan for family meeting with family, Dr. [**Last Name (STitle) 21**] and ICU Team this
   afternoon
   Previous goals:
   -48h goal: improvement in respiratory status and decreased FiO2
   requirement
   -5 day goal: off pressors
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis.
   Unclear etiology though med effect, progression of GVHD to liver
   possibilities.
   - Trend LFTs
   .
   #. Refractory multiple myeloma admitted on [**2165-2-25**] now s/p
   mini-allogeneic SCT: His course has been extremely complicated and now
   with increasing immunosuppression for GVHD.
   - appreciate BMT recs
   - cont immunosuppressants
   - cont Methylpred 30 mg IV Q12H, Cellcept [**Pager number 1975**] mg IV BID, Atovaquone
   1500 daily
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Sacral decubitus ulcer:
   - Wound care
   ICU Care
   Nutrition: NPO for now; pt bacteremic with no available central access;
   will continue to assess and initiate TPN pending improvement in
   bactermia and possible line placement
   Glycemic Control:  ISS
   Lines:
   Multi Lumen- Subclavian - [**2165-6-18**] 07:10 PM
   Arterial Line - [**2165-6-19**] 01:47 AM
   Prophylaxis:
   DVT: penumoboots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Pt and wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2165-06-21 10:00:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, bacteremia,
   renal failure, anemia, atrial fibrillation, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Urine output trending downward for which he received fluids.
   Maintained on vasopressin overnight, but dropped BP early in the AM
   that did not respond to fluids and levophed restarted.
   Oxygenation worsened during the night; FIO2 and PEEP increased.
   Transfused 3 units of packed RBCs yesterday.
   Albumin is dropping.
   Renal function stable.
   CVP 17 after 1 liter of fliud this AM (on PEEP=16)
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Intubated, sedated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2165-6-19**] 01:00 PM
   Aztreonam - [**2165-6-19**] 02:30 PM
   Atovaquone - [**2165-6-19**] 03:30 PM
   Voriconazole - [**2165-6-20**] 12:14 AM
   Daptomycin - [**2165-6-20**] 11:00 PM
   Meropenem - [**2165-6-21**] 04:06 AM
   Tobramycin - [**2165-6-21**] 07:33 AM
   Acyclovir - [**2165-6-21**] 08:12 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2165-6-20**] 05:10 PM
   Pantoprazole (Protonix) - [**2165-6-21**] 07:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-21**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.5
C (95.9
   HR: 140 (130 - 152) bpm
   BP: 85/55(64) {85/55(64) - 160/102(120)} mmHg
   RR: 14 (0 - 15) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 17 (8 - 18)mmHg
   Mixed Venous O2% Sat: 60 - 60
                               Total In:
                                                                  6,884 mL
                                                                  4,169 mL
   PO:
                               TF:
   IVF:
                                                                  6,073 mL
                                                                  3,819 mL
   Blood products:
                                                                    631 mL
                                                                    350 mL
   Total out:
                                                                  1,276 mL
                                                                    137 mL
   Urine:
                                                                    676 mL
                                                                    137 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  5,608 mL
                                                                  4,032 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.34/37/117/20/-5
   Ve: 9.2 L/min
   PaO2 / FiO2: 195
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , Bronchial: Left base, No(t) Wheezes : ,
   Diminished: , No(t) Absent : , Rhonchorous: Left base)
   Abdominal: No(t) Soft, Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Obese
   Extremities: Right: 4+ edema, Left: 4+ edema, No(t) Cyanosis, No(t)
   Clubbing, Anasarca
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   32 K/uL
   159 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.0 mEq/L
   82 mg/dL
   110 mEq/L
   142 mEq/L
   31.1 %
   1.5 K/uL
        [image002.jpg]
                             [**2165-6-20**]  06:09 AM
                             [**2165-6-20**]  08:28 AM
                             [**2165-6-20**]  11:26 AM
                             [**2165-6-20**]  02:57 PM
                             [**2165-6-20**]  04:20 PM
                             [**2165-6-20**]  07:55 PM
                             [**2165-6-21**]  03:55 AM
                             [**2165-6-21**]  05:27 AM
                             [**2165-6-21**]  08:08 AM
                             [**2165-6-21**]  08:14 AM
   WBC
   1.5
   Hct
   29.2
   27.4
   28.7
   31.1
   Plt
   32
   Cr
   1.9
   1.9
   1.8
   TropT
   0.04
   TCO2
   24
   22
   20
   21
   21
   21
   Glucose
   168
   158
   159
   Other labs: PT / PTT / INR:12.9/31.4/1.1, CK / CKMB /
   Troponin-T:25/5/0.04, ALT / AST:47/24, Alk Phos / T Bili:136/1.4,
   Amylase / Lipase:21/14, Differential-Neuts:78.0 %, Band:6.0 %,
   Lymph:10.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.6 g/dL, LDH:322 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR: persistent bilateral infiltrates, left greater than
   right. Probable LLL atelectasis, but LLL bronchus is visualized arguing
   against a central mucus plug.
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   HYPOTENSION
   ACUTE RENAL FAILURE
   THROMBOCYTOPENIA
   ================
   Patient worse this AM than yesterday afternoon with respect to gas
   exchange and hemodynamics. He is repeatedly intravascularly volume
   depleted because of persistent capillary leak exacerbated by his low
   serum albumin. Urine output less than 20 cc/hr now, although renal
   function has not changed. Concern that he is pre-renal and possibly
   transitioning to ATN; however, we have been unsuccessful at keeping CVP
   up, even with transfusion of blood. Tracking tobramycin level.
    Mixed venous O2 sat is 60%; keep hct at 30 per sepsis protocol.
   Continues to be tachycardic although not any different on vs. off
   levophed.
   NG aspirate continues to show coffee grounds consistent with ongoing
   bleeding from ulcer.
   Platelet count remains low. Consider transfusion of platelets if there
   is evidence that bleeding has increased.
   Unable to start TPN because of venous access issues.
   Will have family meeting with wife today.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Arterial Line - [**2165-6-19**] 01:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-06-22 08:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2165-6-21**] 08:29 AM
   aline x1
 BLOOD CULTURED - At [**2165-6-21**] 10:29 AM
   aline x1
 URINE CULTURE - At [**2165-6-21**] 11:24 AM
 ARTERIAL LINE - STOP [**2165-6-21**] 05:10 PM
 ARTERIAL LINE - START [**2165-6-21**] 06:56 PM
   - bolused 4 L of fluids to keep CVP at 20
   - pt was able to off levophed for 8-9 hours yesterday, was back on 0.01
   for a few hours, currently off levophed again
   - decreased FiO2 from 70%-->50%, saturated in high 90s
   - replaced A-line
   - UOP 10-20cc/hr not really responding to fluids
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2165-6-19**] 01:00 PM
   Aztreonam - [**2165-6-19**] 02:30 PM
   Atovaquone - [**2165-6-19**] 03:30 PM
   Voriconazole - [**2165-6-20**] 12:14 AM
   Daptomycin - [**2165-6-20**] 11:00 PM
   Tobramycin - [**2165-6-21**] 07:33 AM
   Acyclovir - [**2165-6-22**] 12:02 AM
   Meropenem - [**2165-6-22**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Vasopressin - 1.2 units/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-6-21**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-22**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 135 (110 - 147) bpm
   BP: 139/75(94) {61/40(48) - 152/92(110)} mmHg
   RR: 11 (0 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 17 (13 - 17)mmHg
   Total In:
                                                                  6,867 mL
                                                                  1,459 mL
   PO:
   TF:
   IVF:
                                                                  6,437 mL
                                                                  1,459 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    327 mL
                                                                    290 mL
   Urine:
                                                                    327 mL
                                                                    140 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  6,540 mL
                                                                  1,169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 98%
   ABG: 7.42/32/132/20/-2
   Ve: 8.4 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General- Intubated, sedated, anasarca in NAD
   Lungs- CTAB
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, warm
   Labs / Radiology
   14 K/uL
   10.5 g/dL
   156 mg/dL
   1.8 mg/dL
   20 mEq/L
   3.9 mEq/L
   83 mg/dL
   107 mEq/L
   136 mEq/L
   30.2 %
   1.1 K/uL
        [image002.jpg]
                             [**2165-6-20**]  07:55 PM
                             [**2165-6-21**]  03:55 AM
                             [**2165-6-21**]  05:27 AM
                             [**2165-6-21**]  08:08 AM
                             [**2165-6-21**]  08:14 AM
                             [**2165-6-21**]  10:02 AM
                             [**2165-6-21**]  01:29 PM
                             [**2165-6-21**]  07:25 PM
                             [**2165-6-22**]  01:49 AM
                             [**2165-6-22**]  03:20 AM
   WBC
   1.5
   1.5
   1.5
   1.1
   Hct
   28.7
   31.1
   34.9
   34.6
   30.6
   30.2
   Plt
   32
   22
   22
   14
   Cr
   1.9
   1.8
   1.8
   TropT
   0.04
   0.05
   TCO2
   21
   21
   21
   21
   Glucose
   158
   159
   156
   Other labs: PT / PTT / INR:12.7/30.9/1.1, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:47/24, Alk Phos / T Bili:144/1.4,
   Amylase / Lipase:21/14, Differential-Neuts:85.0 %, Band:1.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:319 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Sputum culture
 e. coli
 sensitive to tobra, pip/tazo, gentamicin,
   unasyn
   Fungal culture
 no fungus isolated
   BAL
 not processed
   CXR
 ET tube too close to carina.  Persistent bilateral infiltrates
   unchanged from yesterday, left greater than right. Probable LLL
   atelectasis, but LLL bronchus is visualized arguing against a central
   mucus plug.
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Septic shock: pt with enterococcus and GNR bacteremia
   -Continue daptomycin for VRE
   -Continue [**Name (NI) 9261**] (pt now desensitized)
   -Continue Tobramycin for double pseudomonas coverage
   -Continue vasopressin and levophed to increase perfusion as needed for
   MAP>60, but try and wean off levophed
   -continue IVF PRN with goal CVP = 20
   .
   # Respiratory distress: Pt continues on ventilator AC (Vt 600, RR 14,
   PEEP 16, FiO2 50%) with good saturation in high 90s.
   -change to FiO2 of 40%
   -Continue antibiotics as above
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.  Currently on digoxin
   with no improvement.
   -hold digoxin today, patient
s UOP is low and digoxin cannot be
   dialyzed
   -Monitor HR
 if increases on norepinephrine, will change back to
   phenylephrine
   .
   # Anemia: Pt with 8cm ulcer seen on EGD.  Hct 30.2 this AM
   - continue to check hct q6 hours
   - transfuse to keep Hct>30
   - guaiac stools
   - IR Embolization pending improvement in clinical status (contact:
   [**Name (NI) **] [**Name (NI) 1313**] [**Pager number 9262**])
   .
   # Thrombocytopenia
 Plt of 14 this AM.  Pt has had recent GI bleed
   which is at the moment resolved
   - tranfuse to goal of Plt > 10
   .
   # Oliguria/anuria:  Likely prenal cause of low UOP given low CVPs and
   Fena<1, will continue to bolus IVFs to maintain UOP>30 cc/hr.  Concern
   for possible ATN given periods of hypotension and septic shock.  Also
   worry about renal damage from tobramycin given previous renal failure
   from gentamicin.  Urine showed hyaline casts
   - monitor UOP, bolus IVF for UOP>30
   .
   # Goals of care: d/w family yesterday re: pt
s status. Family is aware
   of condition. Given that pt has survived through multiple prior
   episodes, family would like to continue aggressive care at this time.
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis.
   Unclear etiology though med effect, progression of GVHD to liver
   possibilities.
   - Trend LFTs
   .
   #. Refractory multiple myeloma admitted on [**2165-2-25**] now s/p
   mini-allogeneic SCT: His course has been extremely complicated and now
   with increasing immunosuppression for GVHD.
   - appreciate BMT recs
   - cont immunosuppressants
   - cont Methylpred 30 mg IV Q12H, Cellcept [**Pager number 1975**] mg IV BID, Atovaquone
   1500 daily
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Sacral decubitus ulcer:
   - Wound care
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Arterial Line - [**2165-6-21**] 06:56 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Addendum
   # Nutrition
 patient has been unable to receive nutrition over the
   last week.  GI bleed appears to be currently resolved, hct has been
   stable.
   - restart pt on tube feeds via OG tube
   ------ Protected Section Addendum Entered By:[**Name (NI) 4157**] [**Last Name (NamePattern1) 9310**], MD
   on:[**2165-6-22**] 11:02 ------

2165-06-22 10:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, hypotension, pneumonia, acute
   renal failure, anemia, thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Off and on levophed throughout the day yesterday; now off. Continues on
   vasopressin. Required 4L of intravenous fluids yesterday to sustain BP.
   FIO2 reduced to 50% with good oxygenation.
   Hct stable.
   24 Hour Events:
 BLOOD CULTURED - At [**2165-6-21**] 08:29 AM
   aline x1
 BLOOD CULTURED - At [**2165-6-21**] 10:29 AM
   aline x1
 URINE CULTURE - At [**2165-6-21**] 11:24 AM
 ARTERIAL LINE - STOP [**2165-6-21**] 05:10 PM
 ARTERIAL LINE - START [**2165-6-21**] 06:56 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated.
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2165-6-19**] 01:00 PM
   Aztreonam - [**2165-6-19**] 02:30 PM
   Atovaquone - [**2165-6-19**] 03:30 PM
   Voriconazole - [**2165-6-20**] 12:14 AM
   Tobramycin - [**2165-6-21**] 07:33 AM
   Meropenem - [**2165-6-22**] 04:00 AM
   Acyclovir - [**2165-6-22**] 08:11 AM
   Daptomycin - [**2165-6-22**] 08:11 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-6-21**] 08:50 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-22**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.6
C (96.1
   HR: 123 (110 - 147) bpm
   BP: 109/55(69) {61/40(48) - 152/92(110)} mmHg
   RR: 16 (0 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 8 (8 - 17)mmHg
   Total In:
                                                                  6,867 mL
                                                                  1,785 mL
   PO:
   TF:
   IVF:
                                                                  6,437 mL
                                                                  1,785 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    327 mL
                                                                    305 mL
   Urine:
                                                                    327 mL
                                                                    155 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  6,540 mL
                                                                  1,480 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 28 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/32/132/20/-2
   Ve: 8.4 L/min
   PaO2 / FiO2: 264
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 3+ edema, Left: 3+ edema, No(t) Cyanosis, No(t)
   Clubbing, Anasarca; capillary refill improved
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   14 K/uL
   156 mg/dL
   1.8 mg/dL
   20 mEq/L
   3.9 mEq/L
   83 mg/dL
   107 mEq/L
   136 mEq/L
   30.2 %
   1.1 K/uL
        [image002.jpg]
                             [**2165-6-20**]  07:55 PM
                             [**2165-6-21**]  03:55 AM
                             [**2165-6-21**]  05:27 AM
                             [**2165-6-21**]  08:08 AM
                             [**2165-6-21**]  08:14 AM
                             [**2165-6-21**]  10:02 AM
                             [**2165-6-21**]  01:29 PM
                             [**2165-6-21**]  07:25 PM
                             [**2165-6-22**]  01:49 AM
                             [**2165-6-22**]  03:20 AM
   WBC
   1.5
   1.5
   1.5
   1.1
   Hct
   28.7
   31.1
   34.9
   34.6
   30.6
   30.2
   Plt
   32
   22
   22
   14
   Cr
   1.9
   1.8
   1.8
   TropT
   0.04
   0.05
   TCO2
   21
   21
   21
   21
   Glucose
   158
   159
   156
   Other labs: PT / PTT / INR:12.7/30.9/1.1, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:47/24, Alk Phos / T Bili:144/1.4,
   Amylase / Lipase:21/14, Differential-Neuts:85.0 %, Band:1.0 %,
   Lymph:10.0 %, Mono:1.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:319 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR: left > right alveolar infiltrates. ETT too low (has been
   pulled back). Compared to yesterday, right lung infiltrates a bit worse
   - possibly some atelectasis related to tube position.
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   ACIDOSIS
   ACUTE RENAL FAILURE
   HYPOTENSION
   ====================
   Oxygenation improved over the past 24 hours. We have reduced FIO2 to
   40%; if O2 sats remain good, would reduce PEEP to 14. If O2 sats remain
   stable for several hours, try to reduce PEEP to 12.
   BP improved. Off levophed. Continue vasopressin for 24 hours after
   levophed stopped.
   Maintain present antibiotics.
   Creat stable, but urine output remains quite poor. Hold digoxin.
   Tobramycin being monitored closely.
   Will begin tube feedings. Hct stable for 2 days now. Not at transfusion
   threshold.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Arterial Line - [**2165-6-21**] 06:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2165-06-23 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - d/c tobra until qAM tobra levels <2 per ID recs
   -Renal Recs: change acyclovir to q12h dosing
   -Decreased PEEP to 14 with ABG: 7.36/36/116/21
   -Decreased PEEP to 12 with ABG: 7.39/35/101/21
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2165-6-21**] 07:33 AM
   Acyclovir - [**2165-6-22**] 07:48 PM
   Daptomycin - [**2165-6-22**] 11:37 PM
   Meropenem - [**2165-6-23**] 04:45 AM
   Infusions:
   Vasopressin - 1.2 units/hour
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-6-22**] 07:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-23**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.4
C (95.7
   HR: 107 (105 - 135) bpm
   BP: 146/92(104) {113/61(71) - 153/96(107)} mmHg
   RR: 1 (0 - 23) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 13 (8 - 15)mmHg
   Total In:
                                                                  2,804 mL
                                                                    301 mL
   PO:
   TF:
   IVF:
                                                                  2,607 mL
                                                                    301 mL
   Blood products:
                                                                    197 mL
   Total out:
                                                                    660 mL
                                                                    240 mL
   Urine:
                                                                    400 mL
                                                                    190 mL
   NG:
                                                                    260 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,144 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 51.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/35/101/21/-2
   Ve: 9.2 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General- Intubated, sedated, anasarca in NAD
   Lungs- CTAB
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, warm
   Labs / Radiology
   26 K/uL
   10.2 g/dL
   170 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.2 mEq/L
   87 mg/dL
   108 mEq/L
   138 mEq/L
   30.1 %
   1.9 K/uL
        [image002.jpg]
                             [**2165-6-22**]  01:49 AM
                             [**2165-6-22**]  03:20 AM
                             [**2165-6-22**]  12:20 PM
                             [**2165-6-22**]  02:15 PM
                             [**2165-6-22**]  05:57 PM
                             [**2165-6-22**]  06:13 PM
                             [**2165-6-22**]  10:23 PM
                             [**2165-6-22**]  10:38 PM
                             [**2165-6-23**]  04:30 AM
                             [**2165-6-23**]  04:32 AM
   WBC
   1.1
   1.6
   1.9
   1.8
   1.9
   Hct
   30.2
   30.4
   32.3
   29.9
   30.1
   Plt
   14
   41
   30
   29
   26
   26
   Cr
   1.8
   1.9
   TropT
   0.05
   TCO2
   21
   21
   21
   22
   Glucose
   156
   166
   170
   Other labs: PT / PTT / INR:12.2/26.4/1.0, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:47/24, Alk Phos / T Bili:144/1.4,
   Amylase / Lipase:21/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:319 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   .
   Tobra level pending
   .
   Sputum culture
 e. coli
 sensitive to tobra, pip/tazo, gentamicin,
   unasyn and pseudomonas
   Fungal culture
 no fungus isolated
   [**6-21**] Urine cx- neg
   [**6-21**] Blood cx- [**2-16**] positive GPC
   BAL
 not processed
   CXR
 bilateral infiltrates unchanged from yesterday, left greater than
   right. Probable LLL atelectasis, but LLL bronchus is visualized arguing
   against a central mucus plug.
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Septic shock: pt with enterococcus and GNR bacteremia
   -Continue daptomycin for VRE
   -Continue [**Name (NI) 9261**] (pt now desensitized)
   -Continue Tobramycin for double pseudomonas coverage
   -Continue vasopressin and levophed to increase perfusion as needed for
   MAP>60, but try and wean off levophed
   -continue IVF PRN with goal CVP = 20
   .
   # Respiratory distress: Pt continues on ventilator AC (Vt 600, RR 14,
   PEEP 16, FiO2 50%) with good saturation in high 90s.
   -change to FiO2 of 40%
   -Continue antibiotics as above
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.  Currently on digoxin
   with no improvement.
   -hold digoxin today, patient
s UOP is low and digoxin cannot be
   dialyzed
   -Monitor HR
 if increases on norepinephrine, will change back to
   phenylephrine
   .
   # Anemia: Pt with 8cm ulcer seen on EGD.  Hct 30.2 this AM
   - continue to check hct q6 hours
   - transfuse to keep Hct>30
   - guaiac stools
   - IR Embolization pending improvement in clinical status (contact:
   [**Name (NI) **] [**Name (NI) 1313**] [**Pager number 9262**])
   .
   # Thrombocytopenia
 Plt of 14 this AM.  Pt has had recent GI bleed
   which is at the moment resolved
   - tranfuse to goal of Plt > 10
   .
   # Oliguria/anuria:  Likely prenal cause of low UOP given low CVPs and
   Fena<1, will continue to bolus IVFs to maintain UOP>30 cc/hr.  Concern
   for possible ATN given periods of hypotension and septic shock.  Also
   worry about renal damage from tobramycin given previous renal failure
   from gentamicin.  Urine showed hyaline casts
   - monitor UOP, bolus IVF for UOP>30
   .
   # Goals of care: d/w family yesterday re: pt
s status. Family is aware
   of condition. Given that pt has survived through multiple prior
   episodes, family would like to continue aggressive care at this time.
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis.
   Unclear etiology though med effect, progression of GVHD to liver
   possibilities.
   - Trend LFTs
   .
   #. Refractory multiple myeloma admitted on [**2165-2-25**] now s/p
   mini-allogeneic SCT: His course has been extremely complicated and now
   with increasing immunosuppression for GVHD.
   - appreciate BMT recs
   - cont immunosuppressants
   - cont Methylpred 30 mg IV Q12H, Cellcept [**Pager number 1975**] mg IV BID, Atovaquone
   1500 daily
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Sacral decubitus ulcer:
   - Wound care
   ICU Care
   Nutrition: Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Arterial Line - [**2165-6-21**] 06:56 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2165-06-23 11:45:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, pneumonia,
   afib, acute renal failure, GI bleed.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Able to be off levophed yesterday. Vasopressin stopped this AM. Urine
   output improving. Creat up slightly.
   Oxygenation a bit better. PEEP now down to 12.
   Platelets remain low; was transfused platelets yersterday.
   Hct stable at 30.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2165-6-21**] 07:33 AM
   Daptomycin - [**2165-6-22**] 11:37 PM
   Meropenem - [**2165-6-23**] 04:45 AM
   Acyclovir - [**2165-6-23**] 08:52 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-6-22**] 07:48 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-23**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 114 (103 - 121) bpm
   BP: 132/71(87) {101/54(67) - 178/98(126)} mmHg
   RR: 1 (0 - 23) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 14 (11 - 15)mmHg
   Total In:
                                                                  2,804 mL
                                                                    746 mL
   PO:
   TF:
   IVF:
                                                                  2,607 mL
                                                                    746 mL
   Blood products:
                                                                    197 mL
   Total out:
                                                                    660 mL
                                                                    560 mL
   Urine:
                                                                    400 mL
                                                                    510 mL
   NG:
                                                                    260 mL
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,144 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 27 cmH2O
   Compliance: 40.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.39/35/101/21/-2
   Ve: 9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, Absent),
   (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, Diminished breath sounds
   Extremities: Right: 3+ edema, Left: 3+, No(t) Cyanosis, No(t) Clubbing,
   Anasarca
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   26 K/uL
   170 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.2 mEq/L
   87 mg/dL
   108 mEq/L
   138 mEq/L
   30.1 %
   1.9 K/uL
        [image002.jpg]
                             [**2165-6-22**]  01:49 AM
                             [**2165-6-22**]  03:20 AM
                             [**2165-6-22**]  12:20 PM
                             [**2165-6-22**]  02:15 PM
                             [**2165-6-22**]  05:57 PM
                             [**2165-6-22**]  06:13 PM
                             [**2165-6-22**]  10:23 PM
                             [**2165-6-22**]  10:38 PM
                             [**2165-6-23**]  04:30 AM
                             [**2165-6-23**]  04:32 AM
   WBC
   1.1
   1.6
   1.9
   1.8
   1.9
   Hct
   30.2
   30.4
   32.3
   29.9
   30.1
   Plt
   14
   41
   30
   29
   26
   26
   Cr
   1.8
   1.9
   TropT
   0.05
   TCO2
   21
   21
   21
   22
   Glucose
   156
   166
   170
   Other labs: PT / PTT / INR:12.2/26.4/1.0, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:47/24, Alk Phos / T Bili:144/1.4,
   Amylase / Lipase:21/14, Differential-Neuts:93.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:319 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.9 mg/dL
   Imaging: CXR: bilateral patchy infiltrates and bilateral effusions. No
   significant change from yesterday
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   ACIDOSIS
   THROMBOCYTOPENIA
   ACUTE RENAL FAILURE
   =======================
   Hemodyanamics have improved. Now off all vasopressors. Will begin
   diuresis given massive volume overload.
   Oxygenation stable on 40% supplemental O2.  Will decrease PEEP to 10
   now; if stable, reduce to 8 later today. Will probably need to achieve
   negative fluid balance for a number of days before contemplating
   extubation.
   Hct. Stable. No evidence of ongoing bleeding. With vasopressors off, we
   may have a port to start TPN and will hold on tube feedings. Continue
   on PPI.
   Creat up marginally from yesterday. [**Month (only) 51**] have element of ATN or
   aminoglycoside toxicity. With improved hemodynamics, we hope that renal
   function will improve.
   Platelet count drifting down toward transfusion threshold.
   Heart rate improving; remains in afib.
   Metabolic, anion gap acidosis likely due to renal failure.
   ICU Care
   Nutrition: TPN
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Arterial Line - [**2165-6-21**] 06:56 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2165-06-24 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2165-6-23**] 03:59 PM
 BLOOD CULTURED - At [**2165-6-23**] 04:13 PM
   Platelet goal: 20; Hct goal: 30
   - vent AC 600 x 14 10 PEEP 0.4 FiO2 with 98% with 7.39/34/77/21
   - off all pressors all day/night
   -d/c A line as possibly colonized- sent tip for cx and new set blood cx
   -added cipro for better coverage of pseudomonas VAP
   -changed [**Last Name (un) 614**] from q8 to q12 per renal recs, calling renal failure ATN
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2165-6-23**] 08:52 AM
   Voriconazole - [**2165-6-23**] 12:25 PM
   Ciprofloxacin - [**2165-6-23**] 10:00 PM
   Daptomycin - [**2165-6-24**] 12:18 AM
   Meropenem - [**2165-6-24**] 12:18 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2165-6-24**] 04:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-24**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.6
C (96.1
   HR: 135 (103 - 144) bpm
   BP: 120/55(71) {97/47(61) - 145/104(109)} mmHg
   RR: 14 (0 - 26) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 11 (11 - 16)mmHg
   Total In:
                                                                  2,034 mL
                                                                    937 mL
   PO:
   TF:
   IVF:
                                                                  1,627 mL
                                                                    277 mL
   Blood products:
                                                                     50 mL
   Total out:
                                                                  1,150 mL
                                                                    610 mL
   Urine:
                                                                  1,100 mL
                                                                    610 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    884 mL
                                                                    327 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   SpO2: 95%
   ABG: 7.39/34/77/23/-3
   Ve: 9.2 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   19 K/uL
   10.3 g/dL
   351 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   84 mg/dL
   107 mEq/L
   138 mEq/L
   30.5 %
   2.4 K/uL
        [image002.jpg]
                             [**2165-6-22**]  02:15 PM
                             [**2165-6-22**]  05:57 PM
                             [**2165-6-22**]  06:13 PM
                             [**2165-6-22**]  10:23 PM
                             [**2165-6-22**]  10:38 PM
                             [**2165-6-23**]  04:30 AM
                             [**2165-6-23**]  04:32 AM
                             [**2165-6-23**]  01:48 PM
                             [**2165-6-23**]  04:00 PM
                             [**2165-6-24**]  04:50 AM
   WBC
   1.6
   1.9
   1.8
   1.9
   2.2
   2.4
   Hct
   30.4
   32.3
   29.9
   30.1
   30.0
   30.5
   Plt
   30
   29
   26
   26
   20
   19
   Cr
   1.9
   1.8
   1.7
   TCO2
   21
   21
   22
   21
   Glucose
   166
   170
   184
   351
   Other labs: PT / PTT / INR:11.9/27.9/1.0, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:31/24, Alk Phos / T Bili:265/2.6,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:398 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   BCx
 enterococcus faecum, sensitivities pending
   CXR
 unchanged, bilateral infiltrates L>R
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Respiratory failure: Pt desaturated this AM, required PEEP increased
   to 14, FiO2 increased to 50%, and increased sedation.
   - wean back down to PEEP 10, FiO2 40%
   -Continue antibiotics as above
   .
   # Septic shock: Resolving. Pt with enterococcus and GNR bacteremia,
   still with 4/4 GPC on blood cx
   -Continue daptomycin for VRE
   -Continue [**Name (NI) 9261**] (pt now desensitized)
   -Continue holding Tobramycin for double pseudomonas coverage (hold
   until level <2)
   -Continue vasopressin to increase perfusion as needed for MAP>60
   -continue IVF PRN with goal CVP = 18
   -consider changing A. line as possibly colonized
   - ID recs: consider adding gent 150mg IV q24 for help with VRE
   coverage, abd CT to assess [**Last Name (un) **] thickening for worsening GVHD as source
   of bugs
   - replace A-line
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.  Currently off digoxin
   as his renal function is poor and has difficultly clearing it.  Given
   better hemodynamics, can be tried on nodal agents.  Dilt drip in past
   has not been shown to be very effective, will try lopressor
   -Monitor HR
   - start metoprolol 5 mg IV q6
   .
   # Anemia: Pt with 8cm ulcer seen on EGD.
   - continue to check hct q6 hours
   - transfuse to keep Hct>30
   - guaiac stools
   - IR Embolization pending improvement in clinical status (contact:
   [**Name (NI) **] [**Name (NI) 1313**] [**Pager number 9262**])
   .
   # Thrombocytopenia
 s/p 1 unit of plt yesterday.  Pt has had recent GI
   bleed which is at the moment resolved
   - tranfuse to goal of Plt > 20
   .
   # Renal failure:  Improving with increased BPs.  Creat up marginally
   from yesterday. [**Month (only) 51**] have element of ATN or aminoglycoside toxicity.
   With improved hemodynamics, we hope that renal function will improve.
   Will diurese gently later today as he is massively volume overloaded.
   - monitor UOP
   - no IV fluids
   - diurese with lasix drip for goal of 1 L negative
   .
   # Goals of care: d/w family yesterday re: pt
s status. Family is aware
   of condition. Given that pt has survived through multiple prior
   episodes, family would like to continue aggressive care at this time.
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis.
   Unclear etiology though med effect, progression of GVHD to liver
   possibilities.
   - Trend LFTs
   .
   #. Refractory multiple myeloma admitted on [**2165-2-25**] now s/p
   mini-allogeneic SCT: His course has been extremely complicated and now
   with increasing immunosuppression for GVHD.
   - appreciate BMT recs
   - cont immunosuppressants
   - cont Methylpred 30 mg IV Q12H, Cellcept [**Pager number 1975**] mg IV BID, Atovaquone
   1500 daily
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Sacral decubitus ulcer:
   - Wound care
   .
   # FEN: TPN started today as port available.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-23**] 05:38 PM 63.[**Telephone/Fax (5) 9348**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Prophylaxis:
   DVT: pboots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2165-06-24 12:48:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, acute renal
   failure, pneumonia, GI bleed, anemia, thromboctyopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's BP remains stable off of vasorpessors. Oxygenation was good
   on 50% supplemental oxygen. PEEPhad been  reduced to 10. This AM, OG
   tube became dislodeged. Patient had more secretions from ETT and O2
   sats dropped. PEEP raised again to 14.
   A line pulled. Afebrile.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2165-6-23**] 03:59 PM
 BLOOD CULTURED - At [**2165-6-23**] 04:13 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2165-6-23**] 12:25 PM
   Daptomycin - [**2165-6-24**] 12:18 AM
   Meropenem - [**2165-6-24**] 08:04 AM
   Acyclovir - [**2165-6-24**] 09:10 AM
   Ciprofloxacin - [**2165-6-24**] 12:21 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2165-6-24**] 04:13 AM
   Fentanyl - [**2165-6-24**] 08:31 AM
   Midazolam (Versed) - [**2165-6-24**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-24**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 131 (115 - 151) bpm
   BP: 156/103(111) {97/47(61) - 156/104(111)} mmHg
   RR: 18 (0 - 26) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 11 (11 - 16)mmHg
   Total In:
                                                                  2,034 mL
                                                                  2,145 mL
   PO:
   TF:
   IVF:
                                                                  1,627 mL
                                                                    906 mL
   Blood products:
                                                                    327 mL
   Total out:
                                                                  1,150 mL
                                                                  1,700 mL
   Urine:
                                                                  1,100 mL
                                                                  1,700 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    884 mL
                                                                    445 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   SpO2: 99%
   ABG: 7.39/34/77/23/-3
   Ve: 11.3 L/min
   PaO2 / FiO2: 154
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 3+ edema, Left: 3+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   31 K/uL
   351 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   84 mg/dL
   107 mEq/L
   138 mEq/L
   30.5 %
   2.4 K/uL
        [image002.jpg]
                             [**2165-6-22**]  05:57 PM
                             [**2165-6-22**]  06:13 PM
                             [**2165-6-22**]  10:23 PM
                             [**2165-6-22**]  10:38 PM
                             [**2165-6-23**]  04:30 AM
                             [**2165-6-23**]  04:32 AM
                             [**2165-6-23**]  01:48 PM
                             [**2165-6-23**]  04:00 PM
                             [**2165-6-24**]  04:50 AM
                             [**2165-6-24**]  09:09 AM
   WBC
   1.9
   1.8
   1.9
   2.2
   2.4
   Hct
   32.3
   29.9
   30.1
   30.0
   30.5
   Plt
   29
   26
   26
   20
   19
   31
   Cr
   1.9
   1.8
   1.7
   TCO2
   21
   21
   22
   21
   Glucose
   166
   170
   184
   351
   Other labs: PT / PTT / INR:11.9/27.9/1.0, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:31/24, Alk Phos / T Bili:265/2.6,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:398 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   ANEMIA
   THROMBOCYTOPENIA
   ACUTE RENAL FAILURE
   =====================
   Hemodynamics remain stable. Starting to diurese. Renal function
   improving. Fluid goal should be 1-2L negative today.
   Oxygenation worsened today; possibly some aspiration around the tube vs
   new pneumonia. CXR shows improvement on the right. During rounds we did
   a recruitment maneuver and O2 sats improved to 99%. Will keep on PEEP
   14 for now. If sats remain good, reduce FIO2 to 40%. If still stable,
   reduce PEEP to 12. Would not go below 10 of PEEP until we have been
   able to diurese significantly.
   Hct stable. Not at transfusion threshold.
   Platelets up today post transfusion. WBC also up.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-23**] 05:38 PM 63.[**Telephone/Fax (5) 9348**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2165-06-25 07:08:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2165-6-24**] 04:49 PM
 BLOOD CULTURED - At [**2165-6-25**] 01:06 AM
   cultue off cvl only, unable to venipuncture
   -FiO2 weaned to 40% and PEEP to 12.
   -BCx [**2165-6-23**] positive; cultures fro [**6-25**] drawn
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2165-6-23**] 12:25 PM
   Ciprofloxacin - [**2165-6-24**] 10:00 PM
   Acyclovir - [**2165-6-24**] 11:00 PM
   Daptomycin - [**2165-6-25**] 12:00 AM-d/c
   Meropenem - [**2165-6-25**] 12:00 AM
   Linezolid - [**2165-6-25**] 01:15 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2165-6-24**] 08:31 AM
   Pantoprazole (Protonix) - [**2165-6-24**] 07:57 PM
   Midazolam (Versed) - [**2165-6-24**] 07:59 PM
   Furosemide (Lasix) - [**2165-6-25**] 12:33 AM
   Metoprolol - [**2165-6-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-25**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.7
C (96.3
   HR: 129 (113 - 151) bpm
   BP: 138/78(90) {134/68(80) - 190/110(129)} mmHg
   RR: 14 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 14 (13 - 21)mmHg
   Total In:
                                                                  3,850 mL
                                                                  1,250 mL
   PO:
   TF:
   IVF:
                                                                  1,800 mL
                                                                    657 mL
   Blood products:
                                                                    327 mL
   Total out:
                                                                  4,280 mL
                                                                  1,350 mL
   Urine:
                                                                  4,080 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                   -430 mL
                                                                   -100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   Compliance: 46.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.40/39/98/24/0 (normal)
   Ve: 11.2 L/min
   PaO2 / FiO2: 245
   AC at 600x 14 with 40% and PEEP 12 and ABG as above.
   Physical Examination
   General- Intubated, sedated, anasarca, NAD
   Lungs- CTAB anteriorly and laterally; posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, warm
   Labs / Radiology
   27 K/uL
   9.5 g/dL
   284
   1.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   80 mg/dL
   110 mEq/L
   142 mEq/L
   27.5 %
   2.9 K/uL
        [image002.jpg]
   [**2165-6-25**] at 1:40AM
                             [**2165-6-23**]  04:32 AM
                             [**2165-6-23**]  01:48 PM
                             [**2165-6-23**]  04:00 PM
                             [**2165-6-24**]  04:50 AM
                             [**2165-6-24**]  09:09 AM
                             [**2165-6-24**]  03:06 PM
                             [**2165-6-24**]  06:26 PM
                             [**2165-6-25**]  01:40 AM
                             [**2165-6-25**]  04:15 AM
                             [**2165-6-25**]  06:00 AM
   WBC
   2.2
   2.4
   3.2
   2.9
   Hct
   30.0
   30.5
   27.7
   27.5
   Plt
   20
   19
   31
   27
   27
   Cr
   1.8
   1.7
   1.5
   1.3
   TCO2
   22
   21
   26
   25
   Glucose
   184
   351
   290
   [**Telephone/Fax (3) 9378**]
   Other labs: PT / PTT / INR:12.2/27.3/1.0, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:30/24, Alk Phos / T Bili:283(
265)/2.6
   (stable), D. bili 1.9 (
2.0), Amylase / Lipase:21/14,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:5.0 %, Mono:3.0 %, Eos:0.0
   %, Fibrinogen:859 mg/dL, Lactic Acid:1.9 mmol/L, Albumin:1.6 g/dL,
   LDH:398 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   .
   Tobra 3.0
   .
   CMV pending
   .
   Sputum cx: <10 PMNs and <10 epithelial cells/100X field. No
   microorganisms seen.
   .
   [**2165-6-23**] BCx: GPC in pairs and chains
   .
   [**2165-6-23**] A-line tip culture: pending
   .
   [**2165-6-25**] CXR: supine, increased layering of R pleural effusion/pulmonary
   edema
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   .
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Septic shock: Resolving. Ventilation has improved and has been off
   vasopressin has been off since 8AM [**6-23**], levophed off since [**6-22**]. Pt with
   continued enterococcus bacteremia resistant to vancomycin.
   - CT abdomen/pelvis recommended by ID to evaluate for bowel wall
   thickening as pt continuing to grow enterococcus. However, Due to
   ulcer, difficult to insert OG tube for PO contrast and no access for IV
   contrast. Thus, CT not helpful per radiology to evaluate bowel without
   contrast.
   -PICC placement discussed with IV team to replace subclavian given
   persistent bacteremia and concern for seeded CVL; PICC can only be
   double lumen so pt will only have access for TPN and antibiotics with
   no access for blood products if necessary. Thus, will keep current
   subclavian and continue surveillance cultures. If pt decompensates or
   becomes hemodynamically unstable, will place new CVL and remove current
   subclavian.
   -Change daptomycin to Linezolid for VRE as Enterococcus is sensitive to
   linezolid
   -Continue [**Name (NI) 9261**] (pt now desensitized)
 increase to q6h dosing
   -Continue holding Tobramycin for double pseudomonas coverage (hold
   until level <2)
 level 3.0 today
   -Continue vasopressin to increase perfusion as needed for MAP>60
   .
   # Respiratory distress: Pt continues on ventilator AC (Vt 600, RR 14,
   PEEP 12, FiO2 40%) with good saturation in high 90s. Decreased to PEEP
   10 this AM.
   -F/u ABG
   -wean PEEP as tolerated
   -Continue antibiotics as above
   .
   # Edema: Pt now with improved BPs but with anasarca. Received lasix
   40mg IV yesterday
   -continue lasix boluses today with UOP 100cc/hr
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.
   -Continue metoprolol 5mf IV q4h now that BP has improved.
   -Monitor HR
   .
   # Anemia: Pt with 8cm duodenal ulcer seen on EGD.
   - continue to check hct q12 hours
   - transfuse to keep Hct>25
   - guaiac stools
   .
   # Thrombocytopenia
 stable; required no transfusions yesterday.
   - Plt goal > 20
   .
   # Renal failure:  Improving with increased BPs.  [**Month (only) 51**] have element of
   ATN or aminoglycoside toxicity.
   - monitor UOP, bolus IVF for UOP>30
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis of
   unclear etiology.  DDx include acalculous cholecystits, med effect,
   progression of GVHD to liver.
   - Trend LFTs at this time.
   .
   #. Refractory multiple myeloma admitted on [**2165-2-25**] now s/p
   mini-allogeneic SCT: His course has been extremely complicated and now
   with increasing immunosuppression for GVHD.
   - appreciate BMT recs
   - cont immunosuppressants
   - cont Methylpred 30 mg IV Q12H, Cellcept [**Pager number 1975**] mg IV BID, Atovaquone
   1500 daily
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Sacral decubitus ulcer:
   - Wound care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-24**] 06:04 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2165-06-25 11:30:00 Physician Attending Progress Note
Chief Complaint: Acute respirartory failure, hypotension, pneumonia,
   acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Respiratory status improving. FIO2 down to 0.4 with PEEP 12. Diuresis
   begun with negative fluid balance. BP stable off of vasopressors.
   Renal function continues to improve.
   Blood culture form [**6-23**] positive for gram positive cocci.
   24 Hour Events:
 SPUTUM CULTURE - At [**2165-6-24**] 04:49 PM
 BLOOD CULTURED - At [**2165-6-25**] 01:06 AM
   cultue off cvl only, unable to venipuncture
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2165-6-23**] 12:25 PM
   Ciprofloxacin - [**2165-6-24**] 10:00 PM
   Daptomycin - [**2165-6-25**] 12:00 AM
   Linezolid - [**2165-6-25**] 01:15 AM
   Meropenem - [**2165-6-25**] 08:04 AM
   Acyclovir - [**2165-6-25**] 10:12 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-6-24**] 07:57 PM
   Midazolam (Versed) - [**2165-6-24**] 07:59 PM
   Furosemide (Lasix) - [**2165-6-25**] 12:33 AM
   Metoprolol - [**2165-6-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-25**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.7
C (96.2
   HR: 128 (113 - 142) bpm
   BP: 153/77(95) {129/68(83) - 190/110(129)} mmHg
   RR: 17 (10 - 26) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 21 (13 - 21)mmHg
   Total In:
                                                                  3,850 mL
                                                                  1,983 mL
   PO:
   TF:
   IVF:
                                                                  1,800 mL
                                                                  1,069 mL
   Blood products:
                                                                    327 mL
   Total out:
                                                                  4,280 mL
                                                                  1,950 mL
   Urine:
                                                                  4,080 mL
                                                                  1,950 mL
   NG:
   Stool:
   Drains:
                                                                    200 mL
   Balance:
                                                                   -430 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 12 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 98%
   ABG: 7.40/39/98.[**Numeric Identifier 176**]/24/0
   Ve: 10 L/min
   PaO2 / FiO2: 245
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 3+ edema, Left: 3+
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   27 K/uL
   284
   1.3 mg/dL
   24 mEq/L
   4.2 mEq/L
   80 mg/dL
   110 mEq/L
   142 mEq/L
   27.5 %
   2.9 K/uL
        [image002.jpg]
                             [**2165-6-23**]  04:32 AM
                             [**2165-6-23**]  01:48 PM
                             [**2165-6-23**]  04:00 PM
                             [**2165-6-24**]  04:50 AM
                             [**2165-6-24**]  09:09 AM
                             [**2165-6-24**]  03:06 PM
                             [**2165-6-24**]  06:26 PM
                             [**2165-6-25**]  01:40 AM
                             [**2165-6-25**]  04:15 AM
                             [**2165-6-25**]  06:00 AM
   WBC
   2.2
   2.4
   3.2
   2.9
   Hct
   30.0
   30.5
   27.7
   27.5
   Plt
   20
   19
   31
   27
   27
   Cr
   1.8
   1.7
   1.5
   1.3
   TCO2
   22
   21
   26
   25
   Glucose
   184
   351
   290
   [**Telephone/Fax (3) 9378**]
   Other labs: PT / PTT / INR:12.2/27.3/1.0, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:30/24, Alk Phos / T Bili:283/2.6,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.6 g/dL, LDH:398 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   ACUTE RENAL FAILURE
   GI BLEED
   ================
   Oxygenation continues to improve. PEEP reduced to 10 this AM. Continue
   on diuresis with fluid goal of [**11-15**].5 L negative.
   Renal function improving. Electrolytes and acid base status stable.
   Hct stable; no evidence of additional bleeding. Not at transfusion
   threshold.
   Blood pressure stable off vasopressors, despite recurrent positive
   cultures. Trans-thoracic echo negative for vegetations. If fever
   develops or more positive blood cultures, will change central line.
   Assess for PIC.
   Alk phos and bili is up slightly. Possible acalculous cholecystitis;
   monitor.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-24**] 06:04 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-06-26 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2165-6-25**] 09:46 PM
 BLOOD CULTURED - At [**2165-6-26**] 04:35 AM
   -PEEP decreased to 10 --> ABG: 7.38/42/124/26 --> Weaned to PEEP 8,
   RSBI of 48 this AM
   - fluid balance +900cc at 2100 --> 40mg IV lasix given --> +700 at
   midnight.
   - No PICC placed given need for triple lumen. Subclavian line kept for
   now. Attempted Left IJ with no success.  IR to place IJ today
   - Transfused 2U platelets prior to IJ attempt, plt 20 --> 74
   - Started insulin drip for FSBS>300s-400s - revisit insulin dose in TPN
   tmrw.
   - Increased metoprolol to 7.5mg IV q4H for increased HR with stable
   BPs.
   - transfused 1U pRBCs this AM for Hct 24.7
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2165-6-23**] 12:25 PM
   Daptomycin - [**2165-6-25**] 12:00 AM
   Acyclovir - [**2165-6-25**] 08:05 PM
   Ciprofloxacin - [**2165-6-25**] 11:25 PM
   Linezolid - [**2165-6-26**] 01:00 AM
   Meropenem - [**2165-6-26**] 05:56 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Insulin - Regular - 9 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-6-25**] 08:30 PM
   Furosemide (Lasix) - [**2165-6-25**] 09:40 PM
   Insulin - Regular - [**2165-6-26**] 01:22 AM
   Midazolam (Versed) - [**2165-6-26**] 03:00 AM
   Fentanyl - [**2165-6-26**] 03:00 AM
   Metoprolol - [**2165-6-26**] 04:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-26**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 112 (112 - 142) bpm
   BP: 150/65(84) {129/63(66) - 169/94(109)} mmHg
   RR: 20 (5 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 15 (15 - 21)mmHg
   Total In:
                                                                  4,966 mL
                                                                  1,424 mL
   PO:
   TF:
   IVF:
                                                                  2,525 mL
                                                                    802 mL
   Blood products:
                                                                    438 mL
   Total out:
                                                                  4,270 mL
                                                                  1,280 mL
   Urine:
                                                                  4,270 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                    696 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 33 cmH2O
   Plateau: 18 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 98%
   ABG: 7.38/42/124/23/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General- Intubated, sedated, anasarca, NAD
   Lungs- CTAB anteriorly and laterally; posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, warm
   Labs / Radiology
   57 K/uL
   8.2 g/dL
   232 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.6 mEq/L
   79 mg/dL
   108 mEq/L
   139 mEq/L
   24.1 %
   3.2 K/uL
        [image002.jpg]
                             [**2165-6-24**]  09:09 AM
                             [**2165-6-24**]  03:06 PM
                             [**2165-6-24**]  06:26 PM
                             [**2165-6-25**]  01:40 AM
                             [**2165-6-25**]  04:15 AM
                             [**2165-6-25**]  06:00 AM
                             [**2165-6-25**]  05:10 PM
                             [**2165-6-25**]  08:30 PM
                             [**2165-6-26**]  12:25 AM
                             [**2165-6-26**]  03:57 AM
   WBC
   3.2
   2.9
   4.3
   3.2
   Hct
   27.7
   27.5
   27.5
   24.1
   Plt
   31
   27
   27
   20
   74
   57
   Cr
   1.5
   1.3
   1.1
   TCO2
   26
   25
   26
   Glucose
   290
   323
   318
   284
   232
   Other labs: PT / PTT / INR:11.8/26.9/1.0, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:30/24, Alk Phos / T Bili:227/2.2,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.6 g/dL, LDH:398 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/Dl
   A-line culture
 No growth (final)
   Resp culture
 sparse growth oral flora
   BCx [**2165-6-23**]
 enterococcus
   CXR
 increased haziness of left lower lung, unable to appreciate left
   hemidiaphragm
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Septic shock: Resolving. Ventilation has improved and has been off
   vasopressin has been off since 8AM [**6-23**], levophed off since [**6-22**]. Pt with
   continued enterococcus bacteremia resistant to vancomycin.
   - CT abdomen/pelvis recommended by ID to evaluate for bowel wall
   thickening as pt continuing to grow enterococcus. However, Due to
   ulcer, difficult to insert OG tube for PO contrast and no access for IV
   contrast. Thus, CT not helpful per radiology to evaluate bowel without
   contrast.
   -PICC placement discussed with IV team to replace subclavian given
   persistent bacteremia and concern for seeded CVL; PICC can only be
   double lumen so pt will only have access for TPN and antibiotics with
   no access for blood products if necessary. Thus, will keep current
   subclavian and continue surveillance cultures. IJ line placement
   attempted yesterday, with no success.  IR to place IJ line today.
   -Change daptomycin to Linezolid for VRE as Enterococcus is sensitive to
   linezolid
   -Continue [**Name (NI) 9261**] (pt now desensitized)
 increase to q6h dosing
   -Start gentamicin 250mg IV daily checking peak and trough on 4th dose
   as per ID
   .
   # Respiratory distress: Pt continues on ventilator AC, weaned to Vt
   600, RR 14, PEEP 8, FiO2 40% with good saturation in high 90s. RSBI
   this AM is 48.
   - Trial of pressure support today on [**3-19**].  Will continue to try and
   wean patient off ventilator
   - Continue antibiotics as above
   .
   # Edema: Pt was +700cc yesterday.  Received Lasix 40mg IV yesterday
   with good UOP response, but pt is still currently in positive fluid
   balance.
   - Lasix 40 IV TID with goal of [**11-16**] L negative today
   - monitor UOP
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.
   -Continue metoprolol 7.5mg IV q4h now that BP has improved.
   -Monitor HR
   .
   # Anemia: Pt with 8cm duodenal ulcer seen on EGD.
   - check hct q12 hours
   - transfuse to keep Hct>25
   - ordered for 1 U pRBC, f/u repeat hct
   - guaiac stools
   - reserved 3 U of matched pRBC with blood bank for IR procedure today
   .
   # Thrombocytopenia
 stable, received 1 U platelets yesterday for IJ
   access attempt.
   - Plt goal > 20
   .
   # Hyperglycemia
   - continue TPN today, nutrition increased insulin to 65 units
   - continue insulin drip for goal of 100-150 blood glucose
   .
   # Renal failure:  Improved with increased BPs.  [**Month (only) 51**] have element of ATN
   or aminoglycoside toxicity.
   - monitor UOP
   - bolus lasix for UOP>30
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis of
   unclear etiology.  DDx include acalculous cholecystits, med effect,
   progression of GVHD to liver.
   - Trend LFTs at this time.
   .
   #. Refractory multiple myeloma admitted on [**2165-2-25**] now s/p
   mini-allogeneic SCT: His course has been extremely complicated and now
   with increasing immunosuppression for GVHD.
   - appreciate BMT recs
   - cont immunosuppressants
   - cont Methylpred 30 mg IV Q12H, Cellcept [**Pager number 1975**] mg IV BID, Atovaquone
   1500 daily
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Sacral decubitus ulcer:
   - Wound care
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-25**] 06:01 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU

2165-06-26 09:04:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, afib,
   tachycardia, bacteremia, acute renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Oxygenation stable. PEEP now down to 8. Being given a trial of PSV.
   Fluid balance still positive yesterday despite lasix.
   Unsuccessful attempt at left IJ. Platelet transfusion given with
   appropriate increase in counts.
   Beta blockers increased for afib and tachycardia.
   Renal function continues to improve. Hemodynamically stable.
   24 Hour Events:
 EKG - At [**2165-6-25**] 09:46 PM
 BLOOD CULTURED - At [**2165-6-26**] 04:35 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Voriconazole - [**2165-6-23**] 12:25 PM
   Daptomycin - [**2165-6-25**] 12:00 AM
   Ciprofloxacin - [**2165-6-25**] 11:25 PM
   Linezolid - [**2165-6-26**] 01:00 AM
   Meropenem - [**2165-6-26**] 05:56 AM
   Acyclovir - [**2165-6-26**] 08:01 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2165-6-25**] 08:30 PM
   Furosemide (Lasix) - [**2165-6-25**] 09:40 PM
   Insulin - Regular - [**2165-6-26**] 01:22 AM
   Midazolam (Versed) - [**2165-6-26**] 03:00 AM
   Fentanyl - [**2165-6-26**] 03:00 AM
   Metoprolol - [**2165-6-26**] 08:00 AM
   Other medications:
   Cellcept, fluconazole, chlorhexidine, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-26**] 09:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 110 (110 - 142) bpm
   BP: 138/57(75) {129/57(66) - 169/94(109)} mmHg
   RR: 0 (0 - 24) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   CVP: 15 (15 - 21)mmHg
   Total In:
                                                                  4,966 mL
                                                                  1,759 mL
   PO:
   TF:
   IVF:
                                                                  2,525 mL
                                                                  1,036 mL
   Blood products:
                                                                    438 mL
   Total out:
                                                                  4,270 mL
                                                                  1,430 mL
   Urine:
                                                                  4,270 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
   Balance:
                                                                    696 mL
                                                                    329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 440 (440 - 440) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 19 cmH2O
   SpO2: 96%
   ABG: 7.38/42/124/23/0
   Ve: 8.8 L/min
   PaO2 / FiO2: 310
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   Diffuse, expiratory, No(t) Diminished: , No(t) Absent : , Rhonchorous:
   scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 3+ edema, Left: 3+, No(t) Cyanosis, No(t) Clubbing,
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   57 K/uL
   232 mg/dL
   1.1 mg/dL
   23 mEq/L
   3.6 mEq/L
   79 mg/dL
   108 mEq/L
   139 mEq/L
   24.1 %
   3.2 K/uL
        [image002.jpg]
                             [**2165-6-24**]  09:09 AM
                             [**2165-6-24**]  03:06 PM
                             [**2165-6-24**]  06:26 PM
                             [**2165-6-25**]  01:40 AM
                             [**2165-6-25**]  04:15 AM
                             [**2165-6-25**]  06:00 AM
                             [**2165-6-25**]  05:10 PM
                             [**2165-6-25**]  08:30 PM
                             [**2165-6-26**]  12:25 AM
                             [**2165-6-26**]  03:57 AM
   WBC
   3.2
   2.9
   4.3
   3.2
   Hct
   27.7
   27.5
   27.5
   24.1
   Plt
   31
   27
   27
   20
   74
   57
   Cr
   1.5
   1.3
   1.1
   TCO2
   26
   25
   26
   Glucose
   290
   323
   318
   284
   232
   Other labs: PT / PTT / INR:11.8/26.9/1.0, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:30/24, Alk Phos / T Bili:227/2.2,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.9 mmol/L, Albumin:1.6 g/dL, LDH:398 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR: supine film. Diffuse haziness throughout both lung
   fields, probably representing pleural fluid.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   ANEMIA
   THROMBOCYTOPENIA
   HYPOTENSION
   =====================
   Respiratory status improving. Placed on PSV 5, PEEP 5 this AM. O2 sats
   greater than 95%. Will give more lasix today to achieve negative fluid
   balance of [**11-15**].5 L. Will reduce sedation and determine if we can move
   to bolus sedation.
   Heart rate coming under better control with beta blocker.
   Hemodynamics remain stable; no hypotension off pressors for over 48
   hours.
   Hct has drifted down over several days. Will transfuse PRBCs today
   given the potential for large GI bleed from ulcer. Platelet count
   acceptable today.
   Renal function improving.
   Will try to place PICC line today. Adjusting meds to determine if we
   can get by with 2 ports and remove subclavian line.
   Continuing antibiotics for VRE in blood and gram negative rods in
   sputum.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-25**] 06:01 PM 83.[**Telephone/Fax (5) 3151**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2165-6-18**] 07:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2165-06-27 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -IR placed R IJ, and R subclavian d/c
   -massive GI bleed around 5pm; embolized by IR s/p massive transfusion
   protocol blood product repletion: 7 units PRBCs, 1 unit FFP, 1 unit plt
   -peripheral pulses found with doppler
   -AC vent settings: 600 x 14 5 PEEP 0.4 FiO2
   -repleted Ca for ionized Ca 0.87 (3 g) then 1.0 (2 grams)
   - off pressors since return from angio
   - this AM given 1unit plt to keep >50 for sheath removal
   - 2 limited bleeding episodes with clots after angio
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2165-6-25**] 12:00 AM
   Acyclovir - [**2165-6-26**] 11:37 PM
   Ciprofloxacin - [**2165-6-27**] 01:12 AM
   Linezolid - [**2165-6-27**] 02:15 AM
   Meropenem - [**2165-6-27**] 06:18 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2165-6-26**] 09:40 AM
   Metoprolol - [**2165-6-26**] 03:00 PM
   Pantoprazole (Protonix) - [**2165-6-26**] 11:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-27**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 104 (104 - 143) bpm
   BP: 94/64(73) {94/64(73) - 152/99(115)} mmHg
   RR: 10 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 147 kg (admission): 137.2 kg
    CVP: 5 (4 - 5)mmHg
   Total In:
                                                                 15,971 mL
                                                                  1,806 mL
   PO:
   TF:
   IVF:
                                                                 11,559 mL
                                                                  1,806 mL
   Blood products:
                                                                  2,910 mL
   Total out:
                                                                  2,915 mL
                                                                    568 mL
   Urine:
                                                                  2,815 mL
                                                                    218 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                    350 mL
   Balance:
                                                                 13,056 mL
                                                                  1,238 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 589 (440 - 589) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: 7.33/35/115/17/-6
   Ve: 7.7 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, cool feet but pulses dopplerable
   Labs / Radiology
   35 K/uL
   11.0 g/dL
   174 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.1 mEq/L
   76 mg/dL
   115 mEq/L
   141 mEq/L
   31.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2165-6-25**]  08:30 PM
                             [**2165-6-26**]  12:25 AM
                             [**2165-6-26**]  03:57 AM
                             [**2165-6-26**]  03:42 PM
                             [**2165-6-26**]  09:50 PM
                             [**2165-6-26**]  11:59 PM
                             [**2165-6-27**]  01:29 AM
                             [**2165-6-27**]  02:35 AM
                             [**2165-6-27**]  04:08 AM
                             [**2165-6-27**]  05:33 AM
   WBC
   3.2
   2.6
   7.1
   4.4
   4.1
   3.9
   Hct
   24.1
   18.5
   37.6
   30.6
   31.0
   31.2
   Plt
   74
   57
   38
   93
   49
   37
   35
   Cr
   1.1
   1.1
   1.0
   TCO2
   26
   16
   19
   Glucose
   232
   176
   174
   Other labs: PT / PTT / INR:14.1/31.3/1.2, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:30/24, Alk Phos / T Bili:149/3.3,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:398 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   .
   [**6-25**] blood cx: GPCs, awaiting speciation
   [**6-26**] cath tip and blood cx pending
   CXR: poor quality
   Assessment and Plan
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Hemorrhagic shock:  Received 7 units RBCs, 1 FFP, 1 platelet, about 5
   L NS during massive transfusion for large GI bleed per rectum.  Area
   was embolized by IR and hct has been stable since.  BP briefly
   supported by neo drip during resuscitation but stabilized and off
   pressors since return to ICU.  Continues on the vent.  Plan to evaluate
   for possible end organ damage with EKG, cardiac enzymes, good neuro
   exam after sedation weaned and monitoring creatinine.
   -f/u EKG
   - maintain UOP>30cc/hr, hct>25, MAP>60, CVP 10-12
   - use LR for IVF needs as developed non-gap hyperchloremic met acidosis
   - maintain plt > 50 for removal of femoral artery sheath
   .
   # Bacteremia: Pt with continued enterococcus bacteremia resistant to
   vancomycin.  Central line was changed from R subclavian to R IJ by IR
   yesterday prior to GI bleed.
   - CT abdomen/pelvis recommended by ID to evaluate for bowel wall
   thickening as pt continuing to grow enterococcus. However, Due to
   ulcer, difficult to insert OG tube for PO contrast and no access for IV
   contrast. Thus, CT not helpful per radiology to evaluate bowel without
   contrast.
   - surveillance blood cx today
   - Linezolid for VRE
   -Continue [**Name (NI) 9261**] (pt now desensitized)
 increase to q6h dosing
   -Gentamicin 250mg IV daily checking peak and trough on 4th dose as per
   ID
   .
   # Respiratory failure: Pt continues on ventilator AC with good ABG.
   Was not breathing over the vent during this morning
s exam.
   - Continue AC vent
   - Continue antibiotics as above
   .
   # Edema: Pt was +13 L yesterday after massive transfusions of blood
   products and crystalloids.  Will continue to provide these fluids (LR
   for IVF) and blood products to maintain parameters mentioned above.
   - no diuresis plans today
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.
   -Monitor HR
   .
   # Anemia: Pt s/p IR embolization after massive GI bleed yesterday with
   likely source 8cm duodenal ulcer seen on previous EGD.  Hct stable over
   past 12 hours.
   - check hct q6 hours
   - transfuse to keep Hct>25
   - guaiac stools
   .
   # Thrombocytopenia
 stable, received 1 unit platelets this AM for
   planned femoral sheath removal
   - Plt goal > 50
   .
   # Hyperglycemia
   - restart TPN today, nutrition increased insulin to 65 units
   - continue ISS
   .
   # Renal failure:  Creatinine stable after hemorrhagic shock yesterday
   but will continue to monitor for signs of ATN
   - monitor UOP, creatinine
   - maintain UOP>30 with LR and blood as needed
   .
   # Small gap metabolic acidosis present with concomitant nongap
   acidosis; likely due to massive volume resuscitation.
   -LR instead of NS for IVF
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis of
   unclear etiology.  DDx include hemolysis, acalculous cholecystits, med
   effect, progression of GVHD to liver.
   - Trend LFTs at this time.
   .
   #. Multiple myeloma admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Sacral decubitus ulcer:
   - Wound care
   ICU Care
   Nutrition: TPN
   Glycemic Control: ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Sheath - [**2165-6-26**] 09:00 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2165-06-27 09:34:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, GI bleed,
   anemia, thrombocytopenia, afib
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had massive GI bleed yesterday afternoon requiring embolization
   via IR. Was hypotensive throughout, requiring vasopressors. On return
   to the MICU, patient was weaned off vasopressors. Urine output since
   midnight has been adequate.
   Oxygenation has remained acceptable on 40% oxygen and PEEP=5.
   24 Hour Events:
 MULTI LUMEN - STOP [**2165-6-26**] 02:00 PM
   inserted [**6-17**]
 MULTI LUMEN - START [**2165-6-26**] 02:16 PM
 ANGIOGRAPHY - At [**2165-6-26**] 08:00 PM
 SHEATH - START [**2165-6-26**] 09:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Daptomycin - [**2165-6-25**] 12:00 AM
   Ciprofloxacin - [**2165-6-27**] 01:12 AM
   Linezolid - [**2165-6-27**] 02:15 AM
   Meropenem - [**2165-6-27**] 06:18 AM
   Acyclovir - [**2165-6-27**] 08:11 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2165-6-26**] 09:40 AM
   Metoprolol - [**2165-6-26**] 03:00 PM
   Pantoprazole (Protonix) - [**2165-6-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-27**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 125 (104 - 143) bpm
   BP: 98/66(76) {94/64(73) - 152/99(115)} mmHg
   RR: 18 (0 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 164.4 kg (admission): 137.2 kg
   CVP: 5 (4 - 5)mmHg
   Total In:
                                                                 15,971 mL
                                                                  2,980 mL
   PO:
   TF:
   IVF:
                                                                 11,559 mL
                                                                  2,966 mL
   Blood products:
                                                                  2,910 mL
                                                                     13 mL
   Total out:
                                                                  2,915 mL
                                                                    643 mL
   Urine:
                                                                  2,815 mL
                                                                    293 mL
   NG:
   Stool:
   Drains:
                                                                    100 mL
                                                                    350 mL
   Balance:
                                                                 13,056 mL
                                                                  2,337 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 36 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: 7.33/35/115/17/-6
   Ve: 10 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: No(t) Normal,
   No(t) Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic), Very soft heart sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: , Wheezes :
   Diffuse, expiratory, Diminished: , No(t) Absent : , No(t) Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 4+ edema, Left lower
   extremity edema: 4+, No(t) Cyanosis, No(t) Clubbing, Anasarca
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Unresponsive, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   35 K/uL
   174 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.1 mEq/L
   76 mg/dL
   115 mEq/L
   141 mEq/L
   31.2 %
   3.9 K/uL
        [image002.jpg]
                             [**2165-6-25**]  08:30 PM
                             [**2165-6-26**]  12:25 AM
                             [**2165-6-26**]  03:57 AM
                             [**2165-6-26**]  03:42 PM
                             [**2165-6-26**]  09:50 PM
                             [**2165-6-26**]  11:59 PM
                             [**2165-6-27**]  01:29 AM
                             [**2165-6-27**]  02:35 AM
                             [**2165-6-27**]  04:08 AM
                             [**2165-6-27**]  05:33 AM
   WBC
   3.2
   2.6
   7.1
   4.4
   4.1
   3.9
   Hct
   24.1
   18.5
   37.6
   30.6
   31.0
   31.2
   Plt
   74
   57
   38
   93
   49
   37
   35
   Cr
   1.1
   1.1
   1.0
   TCO2
   26
   16
   19
   Glucose
   232
   176
   174
   Other labs: PT / PTT / INR:14.1/31.3/1.2, CK / CKMB /
   Troponin-T:34/9/0.05, ALT / AST:30/24, Alk Phos / T Bili:149/3.3,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:5.0 %, Mono:3.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:398 IU/L, Ca++:6.7 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   ACUTE RENAL FAILURE
   ACIDOSIS
   =========================
   Hemodynamically stable since embolization of his bleeding ulcer.
   Concern about possible ATN, but creat okay this AM and urine output
   adequate. Platelets being repleted to minimize risk of rebleeding.
   Oxygenation acceptable. Patient not initiating sponataneous breaths
   when rate turned down on ventilator. Reduce sedation to assess
   ventilatory controller. Will likely need diuresis before we can
   consider extubation. Bronchospasm may represent interstitial and airway
   edema. Treat with bronchodilators.
   Blood pressure remains below baseline levels. Check ECG and cardiac
   enzymes given prolonged hypotension. Check CVP to assess intravascular
   volume status. Maintain urine output >30 cc/hr.
   Hct acceptable  now. Monitor for evidence of recurrent bleeding.
   Maintain platelets at > 40K.
   Continues on antibiotics for persistent bactermia. Right subclavian
   line removed yesterday. Substantial venous clot; concern for infected
   clot.
   Small gap metabolic acidosis present with concomitant nongap acidosis;
   likely due to massive volume resuscitation. Use lactated Ringers rather
   than NS for any volume needs.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Sheath - [**2165-6-26**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2165-06-28 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2165-6-27**] 05:39 PM
   - A-line placed
   - IR: keep arterial sheath overnight in case we need to give large
   volumes
   - q6h Hct checks, goal >25 - 26.6, 27.2, 25.5, 20.3
   - episode of hypotension with SBP in 70s, MAPs in 40-50s.  Given 1 L LR
   bolus with no effect.  Levophed restarted
   - Hct of 20.3 ordered for 2 units pRBC, IR called
   - gastric lavage showed coffee grounds and frank blood, IR to do
   further embolization
   - Currently has received 7 units pRBC, 1 unit platelet, 5 L IVF
   awaiting IR embolization
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2165-6-27**] 05:38 PM
   Acyclovir - [**2165-6-27**] 08:03 PM
   Ciprofloxacin - [**2165-6-27**] 10:03 PM
   Meropenem - [**2165-6-28**] 12:14 AM
   Linezolid - [**2165-6-28**] 12:44 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-6-27**] 06:42 PM
   Pantoprazole (Protonix) - [**2165-6-27**] 08:03 PM
   Fentanyl - [**2165-6-27**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-28**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 129 (109 - 131) bpm
   BP: 90/56(66) {90/50(64) - 160/89(124)} mmHg
   RR: 14 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 164.4 kg (admission): 137.2 kg
           Total In:
                                                                  5,788 mL
                                                                  3,173 mL
   PO:
           TF:
   IVF:
                                                                  4,868 mL
                                                                  1,840 mL
   Blood products:
                                                                    395 mL
                                                                    845 mL
   Total out:
                                                                  1,528 mL
                                                                  2,595 mL
   Urine:
                                                                  1,068 mL
                                                                    495 mL
   NG:
   Stool:
   1,900 mL
   Drains:
                                                                    460 mL
                                                                    200 mL
   Balance:
                                                                  4,260 mL
                                                                    578 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 644 (342 - 663) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 41 cmH2O
   Plateau: 28 cmH2O
   SpO2: 100%
   ABG: 7.32/37/116/20/-6
   Ve: 15.8 L/min
   PaO2 / FiO2: 232
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, cool feet but pulses dopplerable
   Labs / Radiology
   55 K/uL
   7.3 g/dL
   220 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.0 mEq/L
   76 mg/dL
   113 mEq/L
   139 mEq/L
   20.3 %
   2.6 K/uL
        [image002.jpg]
                             [**2165-6-27**]  09:55 AM
                             [**2165-6-27**]  10:13 AM
                             [**2165-6-27**]  12:45 PM
                             [**2165-6-27**]  04:38 PM
                             [**2165-6-27**]  06:00 PM
                             [**2165-6-27**]  06:18 PM
                             [**2165-6-27**]  09:38 PM
                             [**2165-6-27**]  11:09 PM
                             [**2165-6-28**]  04:13 AM
                             [**2165-6-28**]  05:20 AM
   WBC
   2.6
   Hct
   26.6
   27.2
   25.5
   20.3
   Plt
   48
   76
   60
   63
   55
   Cr
   1.1
   1.1
   TropT
   0.21
   0.18
   TCO2
   22
   21
   21
   20
   Glucose
   192
   212
   220
   Other labs: PT / PTT / INR:13.8/30.7/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:30/24, Alk Phos / T Bili:126/2.1,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:378 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.5 mg/dL, PO4:4.0 mg/dL
   Blood culture ([**6-25**])
 gram positive cocci in pairs and chains
   Sputum culture
 negative
   CXR -
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Hemorrhagic shock:  Received 7 units RBCs, 1 FFP, 1 platelet, about 5
   L NS during massive transfusion for large GI bleed per rectum.  Area
   was embolized by IR and hct has been stable since.  BP briefly
   supported by neo drip during resuscitation but stabilized and off
   pressors since return to ICU.  Continues on the vent.  Plan to evaluate
   for possible end organ damage with EKG, cardiac enzymes, good neuro
   exam after sedation weaned and monitoring creatinine.
   -f/u EKG
   - maintain UOP>30cc/hr, hct>25, MAP>60, CVP 10-12
   - use LR for IVF needs as developed non-gap hyperchloremic met acidosis
   - maintain plt > 50 for removal of femoral artery sheath
   .
   # Bacteremia: Pt with continued enterococcus bacteremia resistant to
   vancomycin.  Central line was changed from R subclavian to R IJ by IR
   yesterday prior to GI bleed.
   - CT abdomen/pelvis recommended by ID to evaluate for bowel wall
   thickening as pt continuing to grow enterococcus. However, Due to
   ulcer, difficult to insert OG tube for PO contrast and no access for IV
   contrast. Thus, CT not helpful per radiology to evaluate bowel without
   contrast.
   - surveillance blood cx today
   - Linezolid for VRE
   -Continue [**Name (NI) 9261**] (pt now desensitized)
 increase to q6h dosing
   -Gentamicin 250mg IV daily checking peak and trough on 4th dose as per
   ID
   .
   # Respiratory failure: Pt continues on ventilator AC with good ABG.
   Was not breathing over the vent during this morning
s exam.
   - Continue AC vent
   - Continue antibiotics as above
   .
   # Edema: Pt was +13 L yesterday after massive transfusions of blood
   products and crystalloids.  Will continue to provide these fluids (LR
   for IVF) and blood products to maintain parameters mentioned above.
   - no diuresis plans today
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.
   -Monitor HR
   .
   # Anemia: Pt s/p IR embolization after massive GI bleed yesterday with
   likely source 8cm duodenal ulcer seen on previous EGD.  Hct stable over
   past 12 hours.
   - check hct q6 hours
   - transfuse to keep Hct>25
   - guaiac stools
   .
   # Thrombocytopenia
 stable, received 1 unit platelets this AM for
   planned femoral sheath removal
   - Plt goal > 50
   .
   # Hyperglycemia
   - restart TPN today, nutrition increased insulin to 65 units
   - continue ISS
   .
   # Renal failure:  Creatinine stable after hemorrhagic shock yesterday
   but will continue to monitor for signs of ATN
   - monitor UOP, creatinine
   - maintain UOP>30 with LR and blood as needed
   .
   # Small gap metabolic acidosis present with concomitant nongap
   acidosis; likely due to massive volume resuscitation.
   -LR instead of NS for IVF
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis of
   unclear etiology.  DDx include hemolysis, acalculous cholecystits, med
   effect, progression of GVHD to liver.
   - Trend LFTs at this time.
   .
   #. Multiple myeloma admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Sacral decubitus ulcer:
   - Wound care
   ICU Care
   Nutrition: TPN
   Glycemic Control: ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Sheath - [**2165-6-26**] 09:00 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 36**] status: Full code
   Disposition: ICU for now

2165-06-28 10:59:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, hypotension, afib,
   bacteremia, GI bleed, thrombocytopenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hypotension at 4 AM unresponsive to fluids. Levophed started with some
   improvement, but doses escalated. Hct noted to be down by 5 points.
   Blood ordered, NG lavage showed 1L of coffee grounds and blood. IR
   contact[**Name (NI) **]. [**Name2 (NI) **] now in IR. Patient transfused RBCs and platelets
   prior to going to interventional radiology.
   24 Hour Events:
 ARTERIAL LINE - START [**2165-6-27**] 05:39 PM
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2165-6-27**] 05:38 PM
   Acyclovir - [**2165-6-27**] 08:03 PM
   Ciprofloxacin - [**2165-6-27**] 10:03 PM
   Meropenem - [**2165-6-28**] 12:14 AM
   Linezolid - [**2165-6-28**] 12:44 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2165-6-27**] 06:42 PM
   Pantoprazole (Protonix) - [**2165-6-27**] 08:03 PM
   Fentanyl - [**2165-6-27**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-28**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 135 (111 - 152) bpm
   BP: 145/94(111) {84/50(63) - 160/94(124)} mmHg
   RR: 0 (0 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 164.4 kg (admission): 137.2 kg
           Total In:
                                                                  5,788 mL
                                                                  6,281 mL
   PO:
           TF:
   IVF:
                                                                  4,868 mL
                                                                  1,871 mL
   Blood products:
                                                                    395 mL
                                                                  3,922 mL
   Total out:
                                                                  1,528 mL
                                                                  2,640 mL
   Urine:
                                                                  1,068 mL
                                                                    540 mL
   NG:
   Stool:
   1,900 mL
   Drains:
                                                                    460 mL
                                                                    200 mL
   Balance:
                                                                  4,260 mL
                                                                  3,641 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 644 (501 - 663) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 41 cmH2O
   SpO2: 100%
   ABG: 7.32/37/116/20/-6
   Ve: 15.8 L/min
   PaO2 / FiO2: 116
   Physical Examination
   General Appearance: Patient out of the ICU at interventioal radiology
   Labs / Radiology
   12.3 g/dL
   75 K/uL
   220 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.0 mEq/L
   76 mg/dL
   113 mEq/L
   139 mEq/L
   34
   3.8 K/uL
        [image002.jpg]
                             [**2165-6-27**]  12:45 PM
                             [**2165-6-27**]  04:38 PM
                             [**2165-6-27**]  06:00 PM
                             [**2165-6-27**]  06:18 PM
                             [**2165-6-27**]  09:38 PM
                             [**2165-6-27**]  11:09 PM
                             [**2165-6-28**]  04:13 AM
                             [**2165-6-28**]  05:20 AM
                             [**2165-6-28**]  07:40 AM
                             [**2165-6-28**]  10:24 AM
   WBC
   2.6
   3.8
   Hct
   27.2
   25.5
   20.3
   35.6
   34
   Plt
   76
   60
   63
   55
   75
   Cr
   1.1
   1.1
   TropT
   0.18
   TCO2
   21
   21
   20
   Glucose
   192
   212
   220
   Other labs: PT / PTT / INR:14.4/35.0/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:30/24, Alk Phos / T Bili:126/2.1,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.1 mmol/L, Albumin:1.6 g/dL, LDH:378 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.5 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR:large heart.Bilateral pleural effusions
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   METABOLIC ACIDOSIS
   ACUTE RENAL FAIULRE
   ANEMIA
   ======================
   Marked GI bleed again, likely related to ulcer. Patient being evaluated
   in interventional radiology. Consider adding sucralfate via OG tube.
   Maintain platelet count at 50K. to keep MAP between 60-70
 too high BP
   may predispose to his bleeding.
   Metabolic acidiosis (mixed anion gap and hyperchloremic acidosis)
   persists.  Renal function normalized. Urine output has been acceptable.
    Try
   Continues on antibiotics. Blood culture form [**6-25**] positive again for
   gram positive cocci (line was swtiched on that day). Awaiting cultures
   from [**6-27**].
   Oxygenation has been stable; prior to bleed, patient was on pressure
   support with PEEP=5. Efforts to wean patient from mechanical
   ventilation have been hampered by recurrent GI bleeding.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Sheath - [**2165-6-26**] 09:00 PM
   Arterial Line - [**2165-6-27**] 05:39 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2165-06-29 07:40:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2165-6-28**] 12:54 PM
 SHEATH - STOP [**2165-6-28**] 02:00 PM
   -IR embolization today for bleed- no source of bleed found; GDA coiled.
   -R PICC placed by IR
   -try to keep BP slightly lower if HTN is risk factor for bleed -> start
   diuresis (MAPs 60-70)-> got lasix 20mg IV at 1810. +4L at MN.
   - received 3 units of platelets and 2 units of pRBCs
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2165-6-28**] 05:18 PM
   Acyclovir - [**2165-6-28**] 08:36 PM
   Ciprofloxacin - [**2165-6-28**] 10:09 PM
   Linezolid - [**2165-6-29**] 01:00 AM
   Meropenem - [**2165-6-29**] 05:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2165-6-28**] 08:15 AM
   Fentanyl - [**2165-6-28**] 12:50 PM
   Pantoprazole (Protonix) - [**2165-6-28**] 03:25 PM
   Furosemide (Lasix) - [**2165-6-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-29**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 125 (115 - 150) bpm
   BP: 128/73(89) {116/64(80) - 182/115(150)} mmHg
   RR: 0 (0 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
          Total In:
                                                                  9,319 mL
                                                                  1,684 mL
   PO:
          TF:
   IVF:
                                                                  3,748 mL
                                                                    626 mL
   Blood products:
                                                                  4,429 mL
                                                                    310 mL
   Total out:
                                                                  5,255 mL
                                                                  1,105 mL
   Urine:
                                                                  1,855 mL
                                                                    780 mL
   NG:
                                                                    400 mL
                                                                    125 mL
   Stool:
                                                                  2,400 mL
   Drains:
                                                                    600 mL
                                                                    200 mL
   Balance:
                                                                  4,064 mL
                                                                    579 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/41/149/21/-5
   Ve: 8.9 L/min
   PaO2 / FiO2: 298
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, feet warm with pulses dopplerable
   Labs / Radiology
   57 K/uL
   10.0 g/dL
   193 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.0 mEq/L
   74 mg/dL
   110 mEq/L
   134 mEq/L
   26.0 %
   2.7 K/uL
        [image002.jpg]
                             [**2165-6-28**]  05:20 AM
                             [**2165-6-28**]  07:40 AM
                             [**2165-6-28**]  10:24 AM
                             [**2165-6-28**]  02:46 PM
                             [**2165-6-28**]  03:05 PM
                             [**2165-6-28**]  08:11 PM
                             [**2165-6-29**]  12:00 AM
                             [**2165-6-29**]  12:18 AM
                             [**2165-6-29**]  04:34 AM
                             [**2165-6-29**]  04:51 AM
   WBC
   3.8
   2.3
   2.5
   2.6
   2.7
   Hct
   35.6
   34
   31.2
   28.4
   29.2
   26.0
   Plt
   75
   14
   54
   31
   57
   Cr
   1.1
   1.2
   1.2
   TCO2
   20
   18
   20
   22
   22
   Glucose
   [**Telephone/Fax (3) 9466**]
   Other labs: PT / PTT / INR:14.1/30.0/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:30/24, Alk Phos / T Bili:126/2.1,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.6 g/dL, LDH:378 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   .
   [**6-25**]- CMV viral load neg
   [**6-26**] cath tip neg
   [**6-25**] blood cx- ENTEROCOCCUS FAECIUM
   [**6-26**], 13, 14- blood cx pending
   CXR: Mild improvement in L upper fields
   Assessment and Plan
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Hemorrhagic shock:  Two GI bleeds in past two days both sent to IR
   for embolization.  Patient had episode of hypotension due to upper GI
   bleed, not responsive to fluids, requiring levophed.  Received 7 units
   RBCs, 1 unit platelets, 5 L IVF prior to IR embolization on [**6-27**], and 2
   units PRBCs with 8 additional units crossmatched on [**6-28**].  Gastric
   lavage showed coffee grounds.  Patient had copious BRBPR.  Blood loss
   on the order of [**12-18**] liters.  Embolization to be performed by IR.
   - consider sulcrulfate in patient because he now has OG tube
   - consider treatment for H. Pylori
   -Decreased methylprednisone to 20mg [**Hospital1 7**] in effort to decrease steroids
   to assist with ulcer healing
   - surgery reconsulted and he is not surgical candidate
   - bolus LR as needed for BP maintenance
   - maintain UOP>30, MAP>60, CVP 10-12
   .
   # Bacteremia: Pt with continued enterococcus bacteremia resistant to
   vancomycin.
   - surveillance blood cx today
   - Linezolid and gent for VRE
   - Continue [**Name (NI) 9261**] (pt now desensitized)
 increase to q6h dosing for
   ESBL E.coli in urine
   - Cipro and [**Last Name (un) 614**] for pseudomonas in sputum and blood
   - Gentamicin 250mg IV daily checking peak and trough on 4th dose as per
   ID.  (day 3 today)
   - Decreased dose of gent to 220mg daily; Gent Peak/trough on [**6-29**]
   (ordered), [**7-1**]
   .
   # Respiratory failure: Pt had been doing well on AC in the setting of
   acute GI bleed.
   - Continue AC vent, wean down as tolerated
   - Continue antibiotics as above
   .
   # Edema: Pt received a lot of blood products and IVF for the acute
   bleed.  Will reassess fluid status.
   - holding diuresis for today given large amount of products he received
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.
   -Monitor HR
   .
   # Anemia: Pt s/p two IR sessions of embolization over past two days
   after massive GI bleed today with likely source being duodenal ulcer.
   Patient received 7 units pRBCs [**6-27**] and 2 units [**6-28**].
   - check hct q6 hours
   - transfuse to keep Hct>25
   - guaiac stools
   - check and trend Ca
   .
   # Thrombocytopenia
 stable, received 3 unit platelets yesterday to
   maintain plts > 50
   - Plt goal > 50 for acute bleed
   .
   # Hyperglycemia
   - restart TPN today, nutrition increased insulin to 65 units
   - continue ISS
   .
   # Renal failure:  Creatinine stable after hemorrhagic shock but will
   continue to monitor for signs of ATN
   - monitor UOP, creatinine
   - maintain UOP>30 with LR and blood as needed
   .
   # Small gap metabolic acidosis present with concomitant nongap
   acidosis; likely due to massive volume resuscitation.
   -LR instead of NS for IVF
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis of
   unclear etiology.  DDx include hemolysis, acalculous cholecystits, med
   effect, progression of GVHD to liver.
   - Trend LFTs at this time.
   .
   #. Multiple myeloma - admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
   - Hem/Onc: Start Foscarnet 90mg/kg [**Hospital1 7**] for empiric CMV treatment (based
   on ideal body weight)- 72 inches --> 80kg ==> 7200mg [**Hospital1 7**].--> will need
   [**Hospital1 7**] lytes. Med not started overnight given need for large fluid
   requirements prior to and during med infusion- awaiting ID opinion
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Access
 now has R PICC, A line, R IJ
   .
   # Sacral decubitus ulcer:
   - Wound care
   .
   # Goals of care:
    -Made DNR yesterday. NOTE: when calling wife in middle of night - just
   inform her of situation. Do NOT ask if she wants to continue care.
   Goals of care should be addressed with team during daytime, not when
   she's just been woken up due to emergency.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-28**] 06:00 PM 84 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 05:39 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2165-06-29 11:50:00 Physician Attending Progress Note
Chief Complaint: f/u  GIB
   HPI:
    61M w/ h/o MM, s/p failed BMT, AF w/ RVR, w/ UGIB and respiratory
   failure.
   24 Hour Events:
 PICC LINE - START [**2165-6-28**] 12:54 PM
 SHEATH - STOP [**2165-6-28**] 02:00 PM
   Sent to IR yesterday w/o obvious source.  Empiric coiling of
   Gastroduodenal aa.
   Continued on AC.
   Changed to DNR status yesterday.
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2165-6-28**] 05:18 PM
   Linezolid - [**2165-6-29**] 01:00 AM
   Meropenem - [**2165-6-29**] 05:00 AM
   Acyclovir - [**2165-6-29**] 08:00 AM
   Ciprofloxacin - [**2165-6-29**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Fentanyl - [**2165-6-28**] 12:50 PM
   Pantoprazole (Protonix) - [**2165-6-28**] 03:25 PM
   Furosemide (Lasix) - [**2165-6-28**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-29**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 126 (118 - 150) bpm
   BP: 114/63(77) {114/63(77) - 182/115(140)} mmHg
   RR: 18 (18 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
          Total In:
                                                                  9,318 mL
                                                                  2,658 mL
   PO:
          TF:
   IVF:
                                                                  3,748 mL
                                                                  1,220 mL
   Blood products:
                                                                  4,429 mL
                                                                    310 mL
   Total out:
                                                                  5,255 mL
                                                                  1,625 mL
   Urine:
                                                                  1,855 mL
                                                                  1,180 mL
   NG:
                                                                    400 mL
                                                                    125 mL
   Stool:
                                                                  2,400 mL
   Drains:
                                                                    600 mL
                                                                    320 mL
   Balance:
                                                                  4,063 mL
                                                                  1,033 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 37 cmH2O
   Plateau: 28 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/41/149/21/-5
   Ve: 9 L/min
   PaO2 / FiO2: 298
   Physical Examination
   Intubated, sedated
   PERRL
   Irregularly, irregular. No m/r/g
   b/l anterior rhonchi.
   +bs. Soft. Nd.
   1+ LE edema.
   Labs / Radiology
   10.0 g/dL
   57 K/uL
   193 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.0 mEq/L
   74 mg/dL
   110 mEq/L
   134 mEq/L
   26.0 %
   2.7 K/uL
        [image002.jpg]
                             [**2165-6-28**]  05:20 AM
                             [**2165-6-28**]  07:40 AM
                             [**2165-6-28**]  10:24 AM
                             [**2165-6-28**]  02:46 PM
                             [**2165-6-28**]  03:05 PM
                             [**2165-6-28**]  08:11 PM
                             [**2165-6-29**]  12:00 AM
                             [**2165-6-29**]  12:18 AM
                             [**2165-6-29**]  04:34 AM
                             [**2165-6-29**]  04:51 AM
   WBC
   3.8
   2.3
   2.5
   2.6
   2.7
   Hct
   35.6
   34
   31.2
   28.4
   29.2
   26.0
   Plt
   75
   14
   54
   31
   57
   Cr
   1.1
   1.2
   1.2
   TCO2
   20
   18
   20
   22
   22
   Glucose
   [**Telephone/Fax (3) 9466**]
   Other labs: PT / PTT / INR:14.1/30.0/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:30/24, Alk Phos / T Bili:126/2.1,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:859 mg/dL, Lactic
   Acid:1.8 mmol/L, Albumin:1.6 g/dL, LDH:378 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   UGIB
 [**12-17**] large duodenal ulcer.  Now s/p coling x2.  Plan continues to
   be IR for embolization if further bleeding.  Monitor Hct q6h  Maintain
   CVP 10-12, MAP > 60,  Hct q6, follow ionized ca.   Decreasing steroid
   doses may help.  PPI gtt
   Respiratory failure- plan to change to PS tomorrow if stable.   Daily
   wake up.   Sm b/l pleural effusion should not sufficiently prevent
   wean.
   Enterococcal bacteremia - ? if related to prior CVL.   On linezolid,
   gent.  [**Month (only) **] gent dose, follow peaks and troughs.
   ESBL E.coli PNA
  meropenem
   Pseudomonal bacteremia w/ PNA
 meropenem and cipro
   Atrial fibrillation w/RVR
 remains tachycardic.  Failed dig and
   amio.   If worsens consider reinstitution of esmolol gtt.
   Multiple myeloma- continuing immunosuppresion.   Plan to discuss
   Foscarnet w/ ID.  On vori/acyclovir/atovaquone.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-28**] 06:00 PM 84 mL/hour
   Glycemic Control:ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 05:39 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI gtt
   VAP: Bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent: 40 min; patient is critically ill

2165-06-30 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -changed steroids to 20 in AM and 10 in PM per BMT recs to assist with
   ulcer healing
   -ID suggests ganciclovir instead of foscarnet for empiric tx of CMV
   duodenitis (if CrCl > 70, induction is 5mg/kg/dose q12hr; if CrCl 50-69
   then 2.5mg/kg/dose q12hr) but will discuss with team tomorrow prior to
   starting
   -7 pm: decreased FiO2 from .5 to .4 with same 500x18 with PEEP 5 after
   ABG 7.32/41/177/22
   - 1 unit plt for plt 34 -> 82 in afternoon
   - Hypotension to SBP 80s with BRBPNG progressing to bleed per rectum as
   well, being treated with neo, massive transfusion protocol with over 10
   units PRBCs, 4 platelets, 2 FFP, 1 cryo
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2165-6-29**] 06:00 PM
   Ciprofloxacin - [**2165-6-29**] 08:54 PM
   Acyclovir - [**2165-6-29**] 09:00 PM
   Linezolid - [**2165-6-30**] 01:00 AM
   Meropenem - [**2165-6-30**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Phenylephrine - 2 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-6-30**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.3
C (95.5
   HR: 121 (121 - 139) bpm
   BP: 76/43(54) {76/43(54) - 144/89(107)} mmHg
   RR: 18 (18 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
           Total In:
                                                                  6,873 mL
                                                                  6,893 mL
   PO:
           TF:
   IVF:
                                                                  3,665 mL
                                                                    874 mL
   Blood products:
                                                                    907 mL
                                                                  5,379 mL
   Total out:
                                                                  2,700 mL
                                                                  4,500 mL
   Urine:
                                                                  1,865 mL
                                                                    200 mL
   NG:
                                                                    325 mL
                                                                    300 mL
   Stool:
   4,000 mL
   Drains:
                                                                    510 mL
   Balance:
                                                                  4,173 mL
                                                                  2,393 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/39/131/21/-3
   Ve: 9.7 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, feet warm with pulses dopplerable
   Labs / Radiology
   51 K/uL
   10.6 g/dL
   124 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.5 mEq/L
   75 mg/dL
   110 mEq/L
   137 mEq/L
   29.7 %
   2.2 K/uL
        [image002.jpg]
                             [**2165-6-29**]  05:02 PM
                             [**2165-6-29**]  05:30 PM
                             [**2165-6-29**]  08:14 PM
                             [**2165-6-29**]  10:59 PM
                             [**2165-6-30**]  01:15 AM
                             [**2165-6-30**]  01:33 AM
                             [**2165-6-30**]  02:51 AM
                             [**2165-6-30**]  04:47 AM
                             [**2165-6-30**]  05:01 AM
                             [**2165-6-30**]  06:07 AM
   WBC
   3.0
   2.8
   2.5
   2.2
   2.2
   Hct
   25.6
   23.6
   30.3
   24.5
   30.1
   29.7
   Plt
   34
   82
   88
   105
   65
   51
   Cr
   1.1
   1.2
   1.2
   TCO2
   22
   22
   22
   Glucose
   130
   178
   124
   Other labs: PT / PTT / INR:15.2/35.7/1.3, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:[**11-3**], Alk Phos / T Bili:99/2.6,
   Amylase / Lipase:21/14, Differential-Neuts:92.0 %, Band:0.0 %,
   Lymph:4.0 %, Mono:4.0 %, Eos:0.0 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:378 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.7 mg/dL, PO4:5.3 mg/dL
   .
   [**6-25**] blood cx- ENTEROCOCCUS FAECIUM
   [**6-26**], 13, 14- blood cx pending
   Assessment and Plan
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Hemorrhagic shock:  Actively bleeding now (>5 L of blood loss via NG
   and rectum) and being resuscitated with blood products through massive
   transfusion protocol.  His wife is at the bedside and discussing
   possible palliative care.  IR willing to try to embolize one more time
   (final attempt to get last segment of GDA) but patient
s weight exceeds
   limit of table on this campus, and he is too unstable to be transported
   to [**Hospital Ward Name **].  Surgery being consulted as last resort.  Two previous
   GI bleeds in past few days both sent to IR for embolization.  Patient
   had episode of hypotension due to upper GI bleed, not responsive to
   fluids, requiring levophed.  Received 7 units RBCs, 1 unit platelets, 5
   L IVF prior to IR embolization on [**6-27**], and 2 units PRBCs with 8
   additional units crossmatched on [**6-28**].
   -Decreased methylprednisone to 20mg [**Hospital1 7**] in effort to decrease steroids
   to assist with ulcer healing
   - surgery reconsulted for possible emergent procedure
   - neo drip to maintain SBP and massive transfusion protocol
   .
   # Bacteremia: Pt with continued enterococcus bacteremia resistant to
   vancomycin.
   - surveillance blood cx today
   - Linezolid and gent for VRE
   - Continue [**Name (NI) 9261**] (pt now desensitized)
 increase to q6h dosing for
   ESBL E.coli in urine
   - Cipro and [**Last Name (un) 614**] for pseudomonas in sputum and blood
   - Gentamicin 250mg IV daily checking peak and trough on 4th dose as per
   ID.  (day 3 today)
   - Decreased dose of gent to 220mg daily; Gent Peak/trough on [**6-29**]
   (ordered), [**7-1**]
   .
   # Respiratory failure: Pt had been doing well on AC in the setting of
   acute GI bleed.
   - Continue AC vent, wean down as tolerated
   - Continue antibiotics as above
   .
   # Edema: Pt received a lot of blood products and IVF for the acute
   bleed.  Will reassess fluid status.
   - holding diuresis for today given large amount of products he received
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.
   -Monitor HR
   .
   # Anemia: Pt s/p two IR sessions of embolization over past two days
   after massive GI bleed today with likely source being duodenal ulcer.
   Patient received 7 units pRBCs [**6-27**] and 2 units [**6-28**].
   - check hct q6 hours
   - transfuse to keep Hct>25
   - guaiac stools
   - check and trend Ca
   .
   # Thrombocytopenia
 stable, received 3 unit platelets yesterday to
   maintain plts > 50
   - Plt goal > 50 for acute bleed
   .
   # Hyperglycemia
   - restart TPN today, nutrition increased insulin to 65 units
   - continue ISS
   .
   # Renal failure:  Creatinine stable after hemorrhagic shock but will
   continue to monitor for signs of ATN
   - monitor UOP, creatinine
   - maintain UOP>30 with LR and blood as needed
   .
   # Small gap metabolic acidosis present with concomitant nongap
   acidosis; likely due to massive volume resuscitation.
   -LR instead of NS for IVF
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis of
   unclear etiology.  DDx include hemolysis, acalculous cholecystits, med
   effect, progression of GVHD to liver.
   - Trend LFTs at this time.
   .
   #. Multiple myeloma - admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
   - Hem/Onc: Start Foscarnet 90mg/kg [**Hospital1 7**] for empiric CMV treatment (based
   on ideal body weight)- 72 inches --> 80kg ==> 7200mg [**Hospital1 7**].--> will need
   [**Hospital1 7**] lytes. Med not started overnight given need for large fluid
   requirements prior to and during med infusion- awaiting ID opinion
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Access
 now has R PICC, A line, R IJ
   .
   # Sacral decubitus ulcer:
   - Wound care
   .
   # Goals of care:
    -DNR and wife is currently discussing his prognosis/condition with the
   BMT team, our team and surgery to decide how to proceed.  He has
   received 2 coolers full of blood products and is now on cooler 3 of
   massive transfusion protocol still with active hemorrhage.  His wife
   mentioned interest in palliative care and they were consulted but not
   available over the weekend.  Social work contact[**Name (NI) **] instead.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-29**] 06:15 PM 84 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 05:39 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2165-07-01 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**Doctor First Name **]: not a surgical candidate
   - IR: too heavy for IR East bed, would have to transport to IR West.
   Pt is not stable for transfer.
   - Family: no blood products, no pressors, but pursue everything else.
   Pt remains DNR/DNI
   - started ganciclovir to cover for CMV duodenitis
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2165-6-29**] 09:00 PM
   Gentamicin - [**2165-6-30**] 06:00 PM
   Gancyclovir - [**2165-6-30**] 07:00 PM
   Ciprofloxacin - [**2165-6-30**] 10:36 PM
   Linezolid - [**2165-7-1**] 01:00 AM
   Meropenem - [**2165-7-1**] 05:52 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-7-1**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 133 (94 - 133) bpm
   BP: 103/57(73) {93/54(67) - 162/115(133)} mmHg
   RR: 18 (16 - 18) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                 15,085 mL
                                                                  1,370 mL
   PO:
             TF:
   IVF:
                                                                  4,074 mL
                                                                    711 mL
   Blood products:
                                                                  9,456 mL
   Total out:
                                                                  8,610 mL
                                                                  1,140 mL
   Urine:
                                                                    360 mL
                                                                    290 mL
   NG:
                                                                    300 mL
                                                                    400 mL
   Stool:
                                                                  7,600 mL
   Drains:
                                                                    350 mL
                                                                    450 mL
   Balance:
                                                                  6,475 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: 7.28///21/
   Ve: 10.2 L/min
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, feet warm with pulses dopplerable
   Labs / Radiology
   61 K/uL
   11.3 g/dL
   83 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   78 mg/dL
   110 mEq/L
   139 mEq/L
   30.8 %
   2.3 K/uL
        [image002.jpg]
                             [**2165-6-30**]  01:15 AM
                             [**2165-6-30**]  01:33 AM
                             [**2165-6-30**]  02:51 AM
                             [**2165-6-30**]  04:47 AM
                             [**2165-6-30**]  05:01 AM
                             [**2165-6-30**]  06:07 AM
                             [**2165-6-30**]  09:06 AM
                             [**2165-6-30**]  11:42 AM
                             [**2165-6-30**]  05:55 PM
                             [**2165-7-1**]  04:23 AM
   WBC
   2.8
   2.5
   2.2
   2.2
   2.2
   2.3
   Hct
   30.3
   24.5
   30.1
   29.7
   49.5
   37.3
   32.1
   30.8
   Plt
   88
   105
   65
   51
   34
   81
   61
   Cr
   1.2
   1.2
   1.4
   TCO2
   22
   22
   Glucose
   178
   124
   83
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:42/116, Alk Phos / T Bili:126/2.4,
   Amylase / Lipase:21/14, Differential-Neuts:87.6 %, Band:0.0 %,
   Lymph:4.6 %, Mono:6.3 %, Eos:1.0 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:378 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   .
   [**6-25**] blood cx- ENTEROCOCCUS FAECIUM
   [**6-26**], 13, 14- blood cx pending
   No CXR
   Assessment and Plan
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Hemorrhagic shock:  Actively bleeding now (>5 L of blood loss via NG
   and rectum) and being resuscitated with blood products through massive
   transfusion protocol.  His wife is at the bedside and discussing
   possible palliative care.  IR willing to try to embolize one more time
   (final attempt to get last segment of GDA) but patient
s weight exceeds
   limit of table on this campus, and he is too unstable to be transported
   to [**Hospital Ward Name **].  Surgery being consulted as last resort.  Two previous
   GI bleeds in past few days both sent to IR for embolization.  Patient
   had episode of hypotension due to upper GI bleed, not responsive to
   fluids, requiring levophed.  Received 7 units RBCs, 1 unit platelets, 5
   L IVF prior to IR embolization on [**6-27**], and 2 units PRBCs with 8
   additional units crossmatched on [**6-28**].
   -Decreased methylprednisone to 20mg [**Hospital1 7**] in effort to decrease steroids
   to assist with ulcer healing
   - surgery reconsulted for possible emergent procedure
   - neo drip to maintain SBP and massive transfusion protocol
   .
   # Bacteremia: Pt with continued enterococcus bacteremia resistant to
   vancomycin.
   - surveillance blood cx today
   - Linezolid and gent for VRE
   - Continue [**Name (NI) 9261**] (pt now desensitized)
 increase to q6h dosing for
   ESBL E.coli in urine
   - Cipro and [**Last Name (un) 614**] for pseudomonas in sputum and blood
   - Gentamicin 250mg IV daily checking peak and trough on 4th dose as per
   ID.  (day 3 today)
   - Decreased dose of gent to 220mg daily; Gent Peak/trough on [**6-29**]
   (ordered), [**7-1**]
   .
   # Respiratory failure: Pt had been doing well on AC in the setting of
   acute GI bleed.
   - Continue AC vent, wean down as tolerated
   - Continue antibiotics as above
   .
   # Acute renal failure: Cr bumped to 1.4 from 1.2, likely from
   hypotensive episodes during hemorrhagic shock.  Changed ganciclovir
   dosing to q24 from q12.
   .
   # Edema: Pt received a lot of blood products and IVF for the acute
   bleed.  Will reassess fluid status.
   - holding diuresis for today given large amount of products he received
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.
   -Monitor HR
   .
   # Anemia: Pt s/p two IR sessions of embolization over past two days
   after massive GI bleed today with likely source being duodenal ulcer.
   Patient received 7 units pRBCs [**6-27**] and 2 units [**6-28**].
   - check hct q6 hours
   - transfuse to keep Hct>25
   - guaiac stools
   - check and trend Ca
   .
   # Thrombocytopenia
 stable, received 3 unit platelets yesterday to
   maintain plts > 50
   - Plt goal > 50 for acute bleed
   .
   # Hyperglycemia
   - restart TPN today, nutrition increased insulin to 65 units
   - continue ISS
   .
   # Renal failure:  Creatinine stable after hemorrhagic shock but will
   continue to monitor for signs of ATN
   - monitor UOP, creatinine
   - maintain UOP>30 with LR and blood as needed
   .
   # Small gap metabolic acidosis present with concomitant nongap
   acidosis; likely due to massive volume resuscitation.
   -LR instead of NS for IVF
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis of
   unclear etiology.  DDx include hemolysis, acalculous cholecystits, med
   effect, progression of GVHD to liver.
   - Trend LFTs at this time.
   .
   #. Multiple myeloma - admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
   - Hem/Onc: Start Foscarnet 90mg/kg [**Hospital1 7**] for empiric CMV treatment (based
   on ideal body weight)- 72 inches --> 80kg ==> 7200mg [**Hospital1 7**].--> will need
   [**Hospital1 7**] lytes. Med not started overnight given need for large fluid
   requirements prior to and during med infusion- awaiting ID opinion
   - cont ppx with atovaquone, acyclovir & voriconazole
   .
   # Access
 now has R PICC, A line, R IJ
   .
   # Sacral decubitus ulcer:
   - Wound care
   .
   # Goals of care:
    -DNR and wife is currently discussing his prognosis/condition with the
   BMT team, our team and surgery to decide how to proceed.  He has
   received 2 coolers full of blood products and is now on cooler 3 of
   massive transfusion protocol still with active hemorrhage.  His wife
   mentioned interest in palliative care and they were consulted but not
   available over the weekend.  Social work contact[**Name (NI) **] instead.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-30**] 06:00 PM 84 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 05:39 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2165-07-01 12:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2165-6-29**] 09:00 PM
   Gentamicin - [**2165-6-30**] 06:00 PM
   Linezolid - [**2165-7-1**] 01:00 AM
   Meropenem - [**2165-7-1**] 05:52 AM
   Gancyclovir - [**2165-7-1**] 07:55 AM
   Ciprofloxacin - [**2165-7-1**] 11:13 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   ETT
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-7-1**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 125 (111 - 133) bpm
   BP: 133/81(97) {95/54(67) - 155/98(115)} mmHg
   RR: 18 (18 - 19) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                 15,085 mL
                                                                  2,269 mL
   PO:
             TF:
   IVF:
                                                                  4,074 mL
                                                                  1,251 mL
   Blood products:
                                                                  9,456 mL
   Total out:
                                                                  8,610 mL
                                                                  1,270 mL
   Urine:
                                                                    360 mL
                                                                    420 mL
   NG:
                                                                    300 mL
                                                                    400 mL
   Stool:
                                                                  7,600 mL
   Drains:
                                                                    350 mL
                                                                    450 mL
   Balance:
                                                                  6,475 mL
                                                                  1,001 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 32 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: 7.28///21/
   Ve: 9.6 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Anasarca
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Cool, No(t) Rash: , No(t) Jaundice, Mottling
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.3 g/dL
   61 K/uL
   83 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   78 mg/dL
   110 mEq/L
   139 mEq/L
   30.8 %
   2.3 K/uL
        [image002.jpg]
                             [**2165-6-30**]  01:15 AM
                             [**2165-6-30**]  01:33 AM
                             [**2165-6-30**]  02:51 AM
                             [**2165-6-30**]  04:47 AM
                             [**2165-6-30**]  05:01 AM
                             [**2165-6-30**]  06:07 AM
                             [**2165-6-30**]  09:06 AM
                             [**2165-6-30**]  11:42 AM
                             [**2165-6-30**]  05:55 PM
                             [**2165-7-1**]  04:23 AM
   WBC
   2.8
   2.5
   2.2
   2.2
   2.2
   2.3
   Hct
   30.3
   24.5
   30.1
   29.7
   49.5
   37.3
   32.1
   30.8
   Plt
   88
   105
   65
   51
   34
   81
   61
   Cr
   1.2
   1.2
   1.4
   TCO2
   22
   22
   Glucose
   178
   124
   83
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:42/116, Alk Phos / T Bili:126/2.4,
   Amylase / Lipase:21/14, Differential-Neuts:87.6 %, Band:0.0 %,
   Lymph:4.6 %, Mono:6.3 %, Eos:1.0 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:378 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   61yom refractory multiple myeloma, admitted on [**2165-2-25**], and now with
   sepsis and massive GI bleeding.
   RESPIRATORY FAILURE -- persistent.  Continue mechanical ventilator
   support.
   GI BLEED -- severe bleed, attributed to DU.  No further intervention.
   No plans for escalation of care, including no blood products.
   BACTEREMIA -- Continued enterococcus bacteremia resistant to vancomycin
   --> Linezolid and gent for VRE, continue [**Name (NI) 9261**] (pt now
   desensitized), Cipro
   ANEMIA -- attributed predominately to GI blood loss.  No further
   escalation of care, including no blood products.
   NUTRITIONAL SUPPORT -- TPN
   RENAL FAILURE -- monitor creatitine.  At risk for ATN.
   LFT abnormalities -- likely cholestatic picture with transaminitis of
   unclear etiology.
   SACRAL DECUBITUS ULCER -- Wound care
   DISPOSITION -- Per discussion with wife, no escalation of care
   (incuding no blood products) and DNR (no CPR).  In the event of
   clinical decline, transition to comfort care.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-6-30**] 06:00 PM 84 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-07-02 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - [**Location (un) **] organ bank [**Name (NI) 167**], due to multiple myloma, pt is
   decline for all donation
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2165-6-29**] 09:00 PM
   Gancyclovir - [**2165-7-1**] 07:55 AM
   Gentamicin - [**2165-7-1**] 05:55 PM
   Ciprofloxacin - [**2165-7-1**] 10:20 PM
   Linezolid - [**2165-7-2**] 01:43 AM
   Meropenem - [**2165-7-2**] 03:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2165-7-1**] 05:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-7-2**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 119 (116 - 129) bpm
   BP: 104/56(71) {98/54(68) - 133/81(97)} mmHg
   RR: 18 (11 - 19) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                  4,489 mL
                                                                  1,231 mL
   PO:
             TF:
   IVF:
                                                                  2,391 mL
                                                                    558 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    710 mL
   Urine:
                                                                    680 mL
                                                                    350 mL
   NG:
                                                                    400 mL
                                                                    250 mL
   Stool:
   Drains:
                                                                    450 mL
                                                                    110 mL
   Balance:
                                                                  2,959 mL
                                                                    521 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 99%
   ABG: ///21/
   Ve: 9.2 L/min
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, feet warm with pulses dopplerable
   Labs / Radiology
   23 K/uL
   10.5 g/dL
   86 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.3 mEq/L
   86 mg/dL
   106 mEq/L
   136 mEq/L
   29.4 %
   2.3 K/uL
        [image002.jpg]
                             [**2165-6-30**]  01:33 AM
                             [**2165-6-30**]  02:51 AM
                             [**2165-6-30**]  04:47 AM
                             [**2165-6-30**]  05:01 AM
                             [**2165-6-30**]  06:07 AM
                             [**2165-6-30**]  09:06 AM
                             [**2165-6-30**]  11:42 AM
                             [**2165-6-30**]  05:55 PM
                             [**2165-7-1**]  04:23 AM
                             [**2165-7-2**]  03:31 AM
   WBC
   2.5
   2.2
   2.2
   2.2
   2.3
   2.3
   Hct
   24.5
   30.1
   29.7
   49.5
   37.3
   32.1
   30.8
   29.4
   Plt
   105
   65
   51
   34
   81
   61
   23
   Cr
   1.2
   1.4
   1.6
   TCO2
   22
   22
   Glucose
   124
   83
   86
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:36/73, Alk Phos / T Bili:145/2.1,
   Amylase / Lipase:21/14, Differential-Neuts:87.6 %, Band:0.0 %,
   Lymph:4.6 %, Mono:6.3 %, Eos:1.0 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:868 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Gentamicin peak
 14.4
   Gentamicin trough
 6.6
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] now with atrial fibrillation with RVR and septic shock.
   .
   # Hemorrhagic shock:  Massive GI bleed overnight [**6-29**] and through
   morning of [**6-30**] treated with massive transfusion protocol as well as
   two previous bleeds on [**6-27**] and [**6-28**] both sent to IR for embolization.
   Patient became hypotension due to upper GI bleed, not responsive to
   fluids, requiring levophed.  Received 7 units RBCs, 1 unit platelets, 5
   L IVF prior to IR embolization on [**6-27**], and 2 units PRBCs prior to
   embolization on [**6-28**].
   - continue methylprednisone at 10mg qPM in effort to decrease steroids
   to assist with ulcer healing
   - no escalation of care - no pressors, blood products, IR, surgery,
   chest compressions
   - patient is DNR
   - continue ganciclovir to empirically treat possible CMV duodenitis
   that may have caused 8 cm duodenal ulcer (bleeding source)
   .
   # Sepsis: Pt with continued enterococcus bacteremia resistant to
   vancomycin.  ID following, antibiotic regimen adjusted as per ID
   recommendations
   - Continue Linezolid
   - Decrease dosing of merepenem for ESBL E.coli and pseudomonas coverage
   to 500 mg IV q8h (day 13/14) for worsening renal functions
   - Decrease cipro for pseudomonas in sputum and blood to 400 mg IV daily
   (day [**8-29**]) for worsening renal functions
   - HOLD gentamicin until levels <2
   .
   # Respiratory failure: Pt has been doing well on AC.
   - Continue AC vent, wean down as tolerated
   - Continue antibiotics as above
   .
   # Acute renal failure: creatinine increased to 1.6 today from 1.4
   yesterday, likely from hypotensive episodes during hemorrhagic shock
   but also suspecting some component of ATN.  Gentamicin toxicity may
   also be a cause.
   - hold gentamicin until levels <2
   .
   # Anasarca: Pt received a lot of blood products and IVF for the acute
   bleeds.
   - diurese with lasix for net fluid balance of -1 L today
   - check PM electrolytes
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic s/p amniodarone
   drip and many other rate/rhythm control methods.
   -Monitor HR
   .
   # Anemia: Pt s/p two IR sessions of embolization over past two days
   after massive GI bleed today with likely source being duodenal ulcer.
   Patient received 7 units pRBCs [**6-27**], 2 units [**6-28**], 19 units [**2072-6-28**].
   - trend CBC daily
   - no blood products as per family wishes
   - check and trend ionized Ca
   .
   # Thrombocytopenia
 platelets decreased to 23 today.  Patient
s wife
   has agreed to no further blood products, but the overall impression is
   for us not to perform massive transfusion in setting of another massive
   acute bleed.  Patient is NOT comfort measures only, wife only agreed to
   no escalation of care.  By allowing platelets to continue its downward
   trend, it would precipitate the next massive bleeding episode.  For
   now, will transfuse to goal of plt >20 until further goals of care are
   discussed with family.
   - Check PM platelets
   - Transfuse platelets for goal of plt >20
   - Family meeting for goals of care
   .
   # Hyperglycemia
   - on TPN with insulin
   - continue ISS
   .
   # LFT abnormalities: With e/o cholestatic picture with transaminitis of
   unclear etiology.  DDx include hemolysis, acalculous cholecystits, med
   effect, progression of GVHD to liver.
   - Trend LFTs at this time.
   .
   #. Multiple myeloma - admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
   - cont ppx with atovaquone, ganciclovir & voriconazole
   .
   # Access
 Has R PICC, A line, R IJ.  Overnight, PICC line may have
   been moved.  Repeat CXR was obtained which showed that catheter ended
   in SVC.  Is still OK to be used.
   .
   # Sacral decubitus ulcer:
   - Wound care
   .
   # Goals of care:
    -DNR with no pressors, blood products, chest compressions, IR,
   surgery.  No escalation of care.  If/when he starts bleeding again,
   will become comfort measures only with increased pain medication as
   needed.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-1**] 05:41 PM 92 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: ICU

2165-07-02 11:45:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains initubated, mechanically ventilated.
   No new clinical events.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2165-6-29**] 09:00 PM
   Gentamicin - [**2165-7-1**] 05:55 PM
   Ciprofloxacin - [**2165-7-1**] 10:20 PM
   Linezolid - [**2165-7-2**] 01:43 AM
   Meropenem - [**2165-7-2**] 03:00 AM
   Gancyclovir - [**2165-7-2**] 08:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Dextrose 50% - [**2165-7-1**] 05:54 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-7-2**] 11:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 121 (116 - 129) bpm
   BP: 109/62(77) {98/54(68) - 132/77(93)} mmHg
   RR: 18 (11 - 18) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                  4,489 mL
                                                                  1,803 mL
   PO:
             TF:
   IVF:
                                                                  2,391 mL
                                                                    766 mL
   Blood products:
   Total out:
                                                                  1,530 mL
                                                                    870 mL
   Urine:
                                                                    680 mL
                                                                    510 mL
   NG:
                                                                    400 mL
                                                                    250 mL
   Stool:
   Drains:
                                                                    450 mL
                                                                    110 mL
   Balance:
                                                                  2,959 mL
                                                                    933 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 99%
   ABG: ///21/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.5 g/dL
   23 K/uL
   86 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.3 mEq/L
   86 mg/dL
   106 mEq/L
   136 mEq/L
   29.4 %
   2.3 K/uL
        [image002.jpg]
                             [**2165-6-30**]  01:33 AM
                             [**2165-6-30**]  02:51 AM
                             [**2165-6-30**]  04:47 AM
                             [**2165-6-30**]  05:01 AM
                             [**2165-6-30**]  06:07 AM
                             [**2165-6-30**]  09:06 AM
                             [**2165-6-30**]  11:42 AM
                             [**2165-6-30**]  05:55 PM
                             [**2165-7-1**]  04:23 AM
                             [**2165-7-2**]  03:31 AM
   WBC
   2.5
   2.2
   2.2
   2.2
   2.3
   2.3
   Hct
   24.5
   30.1
   29.7
   49.5
   37.3
   32.1
   30.8
   29.4
   Plt
   105
   65
   51
   34
   81
   61
   23
   Cr
   1.2
   1.4
   1.6
   TCO2
   22
   22
   Glucose
   124
   83
   86
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:36/73, Alk Phos / T Bili:145/2.1,
   Amylase / Lipase:21/14, Differential-Neuts:87.6 %, Band:0.0 %,
   Lymph:4.6 %, Mono:6.3 %, Eos:1.0 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:868 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   61yom refractory multiple myeloma, admitted on [**2165-2-25**], and now with
   sepsis and massive GI bleeding.
   RESPIRATORY FAILURE -- persistent.  Continue mechanical ventilator
   support.
   GI BLEED -- severe bleed, attributed to large DU.  No further
   intervention.  No plans for escalation of care, including no massive
   blood products. Plan to wean steroids, continue nutritional support.
   No plans for surgery.
   BACTEREMIA -- Continued enterococcus bacteremia resistant to vancomycin
   --> Linezolid and gent for VRE, continue [**Name (NI) 9261**] (pt now
   desensitized), Cipro
   ANEMIA -- attributed predominately to GI blood loss.  No further
   escalation of care, including no massive transfusion with blood
   products.
   THROMBOCYTOPENIA -- transfuse to maintain plts >20
   NUTRITIONAL SUPPORT -- TPN
   RENAL FAILURE -- monitor creatinine.  At risk for ATN.
   LFT abnormalities -- likely cholestatic picture with transaminitis of
   unclear etiology.
   SACRAL DECUBITUS ULCER -- Wound care.
   DISPOSITION -- Per discussion with wife, no escalation of care
   (incuding no blood products) and DNR (no CPR).  In the event of
   clinical decline, transition to comfort care.  Continue current level
   of care.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-1**] 05:41 PM 92 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-07-03 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -diuresis goal: -1 L (given lasix 20mg IV x 1 with little response),
   lasix drip started with goal 200cc/hr
   .
   - ID recs: holding gent until level<2, changed cipro and [**Last Name (un) 614**] for renal
   dosing
   .
   -[**7-3**] is last day of meropenem
   .
   -transfused 1 Unit platelets yesterday.
   .
   -Pt has high residuals and suspect PO meds are not being absorbed. They
   were held this AM.
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2165-7-1**] 05:55 PM
   Gancyclovir - [**2165-7-2**] 08:00 AM
   Ciprofloxacin - [**2165-7-2**] 11:00 PM
   Meropenem - [**2165-7-3**] 12:10 AM
   Linezolid - [**2165-7-3**] 01:11 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2165-7-2**] 09:55 PM
   Midazolam (Versed) - [**2165-7-3**] 02:36 AM
   Fentanyl - [**2165-7-3**] 03:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-7-3**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 115 (105 - 126) bpm
   BP: 115/74(87) {109/62(77) - 135/92(99)} mmHg
   RR: 10 (2 - 18) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                  4,482 mL
                                                                  1,527 mL
   PO:
             TF:
   IVF:
                                                                  1,950 mL
                                                                    829 mL
   Blood products:
                                                                    233 mL
   Total out:
                                                                  2,350 mL
                                                                  1,355 mL
   Urine:
                                                                  1,765 mL
                                                                    880 mL
   NG:
                                                                    250 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                    335 mL
                                                                    275 mL
   Balance:
                                                                  2,132 mL
                                                                    172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 25 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 99%
   ABG: ///21/
   Ve: 8.6 L/min
   99% on AC at 500x18 with FiO2 40% and PEEP 5. No ABG.
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, feet warm with pulses dopplerable
   Labs / Radiology
   60 K/uL
   10.6 g/dL
   93 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   94 mg/dL
   104 mEq/L
   135 mEq/L
   29.4 %
   2.4 K/uL
        [image002.jpg]
                             [**2165-6-30**]  05:01 AM
                             [**2165-6-30**]  06:07 AM
                             [**2165-6-30**]  09:06 AM
                             [**2165-6-30**]  11:42 AM
                             [**2165-6-30**]  05:55 PM
                             [**2165-7-1**]  04:23 AM
                             [**2165-7-2**]  03:31 AM
                             [**2165-7-2**]  04:47 PM
                             [**2165-7-2**]  09:49 PM
                             [**2165-7-3**]  03:30 AM
   WBC
   2.2
   2.2
   2.3
   2.3
   2.4
   Hct
   29.7
   49.5
   37.3
   32.1
   30.8
   29.4
   29.4
   Plt
   51
   34
   81
   61
   23
   21
   65
   60
   Cr
   1.4
   1.6
   1.5
   1.6
   TCO2
   22
   Glucose
   83
   86
   93
   Other labs: PT / PTT / INR:13.9/33.2/1.2,
    ALT / AST:31/57, Alk Phos / T Bili:186/2.2,
   Differential-Neuts:88.9 %, Band:0.0 %, Lymph:3.1 %, Mono:7.5 %, Eos:0.5
   %, Fibrinogen:150 mg/dL,
   LDH:864 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   .
   Gent: 6.5
   .
   [**6-26**] BCx: no growth
   [**6-27**], [**6-28**] BC: NGTD
   CMV Viral load: pending
   .
   [**7-3**] CXR: none
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
 SHOCK, SEPTIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   .
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] with atrial fibrillation with RVR and hemorragic shock due to
   large duodenal ulcer.
   .
   # Hemorrhagic shock:  Stable. No episdoes of bleeding since [**6-30**] and
   SBP stable in 110s. Due to 8cm bleeding duodenal ulcer, possibly due to
   CMV duodenitis.
   - continue methylprednisone at 10mg qPM and 20mg qAM in effort to
   decrease steroids to assist with ulcer healing
   - continue ganciclovir to empirically treat possible CMV duodenitis
   - no pressors, blood products, IR, surgery, chest compressions
   .
   # Sepsis: Resolving. BCx [**6-26**] negative and [**Date range (1) 9544**] still pending. SBP
   stable in 100s. ID following, antibiotic regimen adjusted as per ID
   recommendations
   - Continue Linezolid for VRE as this is known source. Pt will likely
   need prolonged abx course.
   - Meropenem 500mg IV q8h (day 14/14)
 has been adjusted for renal
   function
   - Continue Cipro 400mg IV daily (day [**9-29**]) for pseudomonas in sputum
   and blood
has been adjusted for renal function  -d/w ID possibility of
   stopping this.
   - HOLD gentamicin until levels <2
   .
   # Respiratory failure: Most likely due to volume overload, decreased
   chest compliance given anasarca. Pt has been doing well on AC.
   - Continue AC ventilator
   .
   # Acute renal failure: creatinine stable at 1.6 today. Likely from
   hypotensive episodes during hemorrhagic shock but also suspecting some
   component of ATN.  Gentamicin toxicity may also be a cause.
   - hold gentamicin until levels <2
   .
   # Anasarca: Pt received a lot of blood products and IVF for the shock
   and acute bleeds. Still positive overnight despite lasix drip.
   - diurese with lasix for net fluid balance of negative every hour.
   - check PM electrolytes
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic. Not currently
   written for any rate control medications.
   -Will add beta blocker once pt is absorbing POs again.
   -Monitor HR
 may consider diltiazem IV
   .
   # Anemia: Due to massive GI bleed. Hct currently stable. No bleeds
   since [**6-30**]. Pt s/p two IR sessions of embolization after massive GI
   bleeds with likely source being duodenal ulcer.  Patient received 7
   units pRBCs [**6-27**], 2 units [**6-28**], 19 units [**2072-6-28**].
   - trend CBC daily
   - no blood products as per family wishes
   .
   # Thrombocytopenia
 platelets stable at 60 today.  Patient
s wife has
   agreed to no further blood products, but the overall impression is for
   us not to perform massive transfusion in setting of another massive
   acute bleed.  Patient is NOT comfort measures only, wife only agreed to
   no escalation of care.  By allowing platelets to continue its downward
   trend, it would precipitate the next massive bleeding episode.
   - For now, will transfuse to goal of plt >20 until further goals of
   care are discussed with family.
   - Check PM platelets
   .
   # Hyperglycemia
   - on TPN with insulin
   - continue ISS
   .
   # LFT abnormalities: With e/o cholestatic picture. DDx include
   hemolysis, acalculous cholecystits, med effect (gancyclovir gives
   transaminitis), progression of GVHD to liver.
   - trend LFTs
   .
   #. Multiple myeloma - admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
 have decreased steroids in effort to help
   ulcer healing
   - cont ppx with atovaquone, ganciclovir & voriconazole, although pt not
   currently getting PO meds due to poor absorption.
   .
   # Sacral decubitus ulcer:
   - Wound care
   .
   # Goals of care:
    -DNR with no pressors, blood products, chest compressions, IR,
   surgery.  No escalation of care.  If/when he starts bleeding again,
   will become comfort measures only with increased pain medication as
   needed.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-2**] 03:25 PM 92 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  buncle
   Comments:
   Communication:  Comments: Wife [**Name (NI) 6517**]
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition: ICU
   ------ Protected Section ------
   Given that pt is not getting atovaquone due to poor PO absorption, most
   likley due to edematous bowel given his anasarca, we will discuss
   talking to ID/BMT about changing atovaquone to inhaled pentamadine.
   ------ Protected Section Addendum Entered By:[**Name (NI) 2414**] [**Last Name (NamePattern1) 9245**], MD
   on:[**2165-7-3**] 12:26 ------

2165-07-03 11:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   No clinical evidence for continued GI bleeding.
   Received plts last PM.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2165-7-1**] 05:55 PM
   Ciprofloxacin - [**2165-7-2**] 11:00 PM
   Linezolid - [**2165-7-3**] 01:11 AM
   Gancyclovir - [**2165-7-3**] 08:00 AM
   Meropenem - [**2165-7-3**] 08:00 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2165-7-2**] 09:55 PM
   Midazolam (Versed) - [**2165-7-3**] 02:36 AM
   Fentanyl - [**2165-7-3**] 03:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-7-3**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.4
C (95.8
   HR: 104 (104 - 124) bpm
   BP: 134/78(94) {115/68(83) - 137/92(99)} mmHg
   RR: 18 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                  4,482 mL
                                                                  2,329 mL
   PO:
             TF:
   IVF:
                                                                  1,950 mL
                                                                  1,304 mL
   Blood products:
                                                                    233 mL
   Total out:
                                                                  2,350 mL
                                                                  2,190 mL
   Urine:
                                                                  1,765 mL
                                                                  1,565 mL
   NG:
                                                                    250 mL
                                                                    200 mL
   Stool:
   Drains:
                                                                    335 mL
                                                                    425 mL
   Balance:
                                                                  2,132 mL
                                                                    139 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 100%
   ABG: ///21/
   Ve: 9 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   Anasarca
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.6 g/dL
   60 K/uL
   93 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.2 mEq/L
   94 mg/dL
   104 mEq/L
   135 mEq/L
   29.4 %
   2.4 K/uL
        [image002.jpg]
                             [**2165-6-30**]  05:01 AM
                             [**2165-6-30**]  06:07 AM
                             [**2165-6-30**]  09:06 AM
                             [**2165-6-30**]  11:42 AM
                             [**2165-6-30**]  05:55 PM
                             [**2165-7-1**]  04:23 AM
                             [**2165-7-2**]  03:31 AM
                             [**2165-7-2**]  04:47 PM
                             [**2165-7-2**]  09:49 PM
                             [**2165-7-3**]  03:30 AM
   WBC
   2.2
   2.2
   2.3
   2.3
   2.4
   Hct
   29.7
   49.5
   37.3
   32.1
   30.8
   29.4
   29.4
   Plt
   51
   34
   81
   61
   23
   21
   65
   60
   Cr
   1.4
   1.6
   1.5
   1.6
   TCO2
   22
   Glucose
   83
   86
   93
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:31/57, Alk Phos / T Bili:186/2.2,
   Amylase / Lipase:21/14, Differential-Neuts:88.9 %, Band:0.0 %,
   Lymph:3.1 %, Mono:7.5 %, Eos:0.5 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:864 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   61yom refractory multiple myeloma, admitted on [**2165-2-25**], and now with
   sepsis and massive GI bleeding.
   RESPIRATORY FAILURE -- persistent.  Continue mechanical ventilator
   support.
   GI BLEED -- severe bleed, attributed to large DU.  No further
   intervention.  No plans for escalation of care, including no massive
   blood products. Plan to wean steroids, continue nutritional support.
   No
   plans for surgery.
   BACTEREMIA -- Continued enterococcus bacteremia resistant to vancomycin
   --> Linezolid and gent for VRE, continue [**Name (NI) 9261**] (pt now
   desensitized), Cipro
   ANEMIA -- attributed predominately to GI blood loss.  No further
   escalation of care, including no massive transfusion with blood
   products.
   THROMBOCYTOPENIA -- transfuse to maintain plts >20
   FLUIDS -- total body overloaded due to ressusitation .  Desire net
   negative if tolerates.  Maximally concentrate all iv meds.
   NUTRITIONAL SUPPORT -- TPN.
   RENAL FAILURE -- monitor creatinine.  At risk for ATN.
   LFT abnormalities -- likely cholestatic picture with transaminitis of
   unclear etiology.
   SACRAL DECUBITUS ULCER -- Wound care.
   DISPOSITION -- Per discussion with wife, no escalation of care
   (incuding no blood products) and DNR (no CPR).  In the event of
   clinical decline, transition to comfort care.  Continue current level
   of care.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-2**] 03:25 PM 92 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-07-04 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Diuresis goal: negative hour to hour with total goal -1L for day - not
   met, he is +700 for the day
   -ID recs: Continue cipro for 15 days
   -switched PO atovaquone to inhaled pentamidine (1/month)
   -Gent level, keep holding gent
   -lowered ganciclovir dose
   -BP on A-line falsely low last pm
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2165-7-1**] 05:55 PM
   Gancyclovir - [**2165-7-3**] 08:00 AM
   Meropenem - [**2165-7-3**] 04:00 PM
   Ciprofloxacin - [**2165-7-3**] 10:00 PM
   Linezolid - [**2165-7-4**] 01:00 AM
   Erythromycin - [**2165-7-4**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Furosemide (Lasix) - 15 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2165-7-4**] 05:45 AM
   Midazolam (Versed) - [**2165-7-4**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-7-4**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.4
C (95.8
   Tcurrent: 35.1
C (95.2
   HR: 104 (96 - 117) bpm
   BP: 126/77(91) {82/29(44) - 142/85(101)} mmHg
   RR: 18 (0 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                  5,107 mL
                                                                  1,294 mL
   PO:
             TF:
   IVF:
                                                                  2,900 mL
                                                                    612 mL
   Blood products:
   Total out:
                                                                  4,255 mL
                                                                  1,800 mL
   Urine:
                                                                  3,300 mL
                                                                  1,450 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                    755 mL
                                                                    350 mL
   Balance:
                                                                    852 mL
                                                                   -506 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 10.4 L/min
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, feet warm with pulses dopplerable
   Labs / Radiology
   26 K/uL
   10.2 g/dL
   108 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   103 mg/dL
   101 mEq/L
   134 mEq/L
   29.2 %
   1.8 K/uL
        [image002.jpg]
                             [**2165-6-30**]  11:42 AM
                             [**2165-6-30**]  05:55 PM
                             [**2165-7-1**]  04:23 AM
                             [**2165-7-2**]  03:31 AM
                             [**2165-7-2**]  04:47 PM
                             [**2165-7-2**]  09:49 PM
                             [**2165-7-3**]  03:30 AM
                             [**2165-7-3**]  04:47 PM
                             [**2165-7-3**]  06:55 PM
                             [**2165-7-4**]  03:52 AM
   WBC
   2.3
   2.3
   2.4
   2.1
   1.8
   Hct
   37.3
   32.1
   30.8
   29.4
   29.4
   28.4
   27.0
   29.2
   Plt
   81
   61
   23
   21
   65
   60
   34
   26
   Cr
   1.4
   1.6
   1.5
   1.6
   1.8
   1.7
   Glucose
   83
   86
   93
   83
   108
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:26/43, Alk Phos / T Bili:186/2.0,
   Amylase / Lipase:21/14, Differential-Neuts:88.9 %, Band:0.0 %,
   Lymph:3.1 %, Mono:7.5 %, Eos:0.5 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:786 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Gent: 5.7
   .
   [**6-26**], [**6-27**], [**6-28**] BCx: neg
   CMV Viral load: pending
   .
   [**7-4**] CXR: ET tube 4.7 cm above carina, difficult to visualize NG tube,
   hazy infiltrates R>L
   Assessment and Plan
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] with atrial fibrillation with RVR and hemorragic shock due to
   large duodenal ulcer.
   .
   # Hemorrhagic shock:  Stable. No episdoes of bleeding since [**6-30**] and
   SBP stable in 110s. Due to 8cm bleeding duodenal ulcer, possibly due to
   CMV duodenitis.
   - continue methylprednisone at 10mg qPM and 20mg qAM in effort to
   decrease steroids to assist with ulcer healing
   - continue ganciclovir to empirically treat possible CMV duodenitis
   - no pressors, blood products, IR, surgery, chest compressions
   .
   # Sepsis: Resolving. BCx [**6-26**], [**6-27**], [**6-28**] all negative. SBP stable. ID
   following, antibiotic regimen adjusted as per ID recommendations
   - Continue Linezolid for VRE as this is known source. Pt will likely
   need prolonged abx course.
   - completed 14 day course of Meropenem yesterday for ESBL E. coli in
   his urine
   - Continue Cipro 400mg IV daily (day [**10-29**]) for pseudomonas in sputum
   and blood
has been adjusted for renal function  -d/w ID possibility of
   stopping this.
   - HOLD gentamicin until levels <2
   .
   # Respiratory failure: Most likely due to volume overload, decreased
   chest compliance given anasarca. Pt has been doing well on AC.
   - Continue AC ventilator
   .
   # Acute renal failure: creatinine stable at 1.7 today. Likely from
   hypotensive episodes during hemorrhagic shock but also suspecting some
   component of ATN.  Gentamicin toxicity may also be a cause.
   - hold gentamicin until levels <2
   .
   # Anasarca: Pt received a lot of blood products and IVF for the shock
   and acute bleeds. Still positive overnight despite lasix drip.
   - diurese with lasix for net fluid balance of negative every hour.
   - check PM electrolytes
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic. Not currently
   written for any rate control medications.
   -Will add beta blocker once pt is absorbing POs again.
   -Monitor HR
 may consider diltiazem IV
   .
   # Anemia: Due to massive GI bleed. Hct currently stable. No bleeds
   since [**6-30**]. Pt s/p two IR sessions of embolization after massive GI
   bleeds with likely source being duodenal ulcer.  Patient received 7
   units pRBCs [**6-27**], 2 units [**6-28**], 19 units [**2072-6-28**].
   - trend CBC daily
   - no blood products as per family wishes
   .
   # Thrombocytopenia
 platelets down to 26 this AM.  Patient
s wife has
   agreed to no further blood products, but the overall impression is for
   us not to perform massive transfusion in setting of another massive
   acute bleed.  Patient is NOT comfort measures only, wife only agreed to
   no escalation of care.  By allowing platelets to continue its downward
   trend, it would precipitate the next massive bleeding episode.
   - For now, will transfuse to goal of plt >20 until further goals of
   care are discussed with family.
   - Check PM platelets
   .
   # Hyperglycemia
   - on TPN with insulin
   - continue ISS
   .
   # LFT abnormalities: With e/o cholestatic picture. DDx include
   hemolysis, acalculous cholecystits, med effect (gancyclovir gives
   transaminitis), progression of GVHD to liver.
   - trend LFTs
   .
   #. Multiple myeloma - admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
 have decreased steroids in effort to help
   ulcer healing
   - cont ppx with atovaquone, ganciclovir & voriconazole, although pt not
   currently getting PO meds due to poor absorption.
   .
   # Sacral decubitus ulcer:
   - Wound care
   .
   # Goals of care:
    -DNR with no pressors, blood products, chest compressions, IR,
   surgery.  No escalation of care.  If/when he starts bleeding again,
   will become comfort measures only with increased pain medication as
   needed.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-3**] 06:30 PM 92 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  buncle
   Comments:
   Communication:  Comments: Wife [**Name (NI) 6517**]
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition: ICU

2165-07-04 12:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Experienced transient hypotension last PM --> received fliud, but BP
   tracing on A-line may have been falsely low --> adjusted.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, Encephalopathy, ETT
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2165-7-1**] 05:55 PM
   Meropenem - [**2165-7-3**] 04:00 PM
   Ciprofloxacin - [**2165-7-3**] 10:00 PM
   Linezolid - [**2165-7-4**] 01:00 AM
   Erythromycin - [**2165-7-4**] 06:00 AM
   Gancyclovir - [**2165-7-4**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Furosemide (Lasix) - 15 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2165-7-4**] 05:45 AM
   Midazolam (Versed) - [**2165-7-4**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss,
   hypothermia
   Eyes: No(t)  Blurry vision, Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-7-4**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.5
C (95.9
   Tcurrent: 35.5
C (95.9
   HR: 119 (96 - 119) bpm
   BP: 147/88(106) {82/29(44) - 189/181(327)} mmHg
   RR: 28 (17 - 28) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                  5,107 mL
                                                                  2,100 mL
   PO:
             TF:
   IVF:
                                                                  2,900 mL
                                                                  1,020 mL
   Blood products:
   Total out:
                                                                  4,255 mL
                                                                  2,380 mL
   Urine:
                                                                  3,300 mL
                                                                  2,030 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
                                                                    755 mL
                                                                    350 mL
   Balance:
                                                                    852 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: ///22/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic,
   anasarca
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: No(t) Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, Rash: erythematous rash over [**Last Name (un) 9566**] aspect of hands and
   proximal digits, No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   26 K/uL
   108 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   103 mg/dL
   101 mEq/L
   134 mEq/L
   29.2 %
   1.8 K/uL
        [image002.jpg]
                             [**2165-6-30**]  11:42 AM
                             [**2165-6-30**]  05:55 PM
                             [**2165-7-1**]  04:23 AM
                             [**2165-7-2**]  03:31 AM
                             [**2165-7-2**]  04:47 PM
                             [**2165-7-2**]  09:49 PM
                             [**2165-7-3**]  03:30 AM
                             [**2165-7-3**]  04:47 PM
                             [**2165-7-3**]  06:55 PM
                             [**2165-7-4**]  03:52 AM
   WBC
   2.3
   2.3
   2.4
   2.1
   1.8
   Hct
   37.3
   32.1
   30.8
   29.4
   29.4
   28.4
   27.0
   29.2
   Plt
   81
   61
   23
   21
   65
   60
   34
   26
   Cr
   1.4
   1.6
   1.5
   1.6
   1.8
   1.7
   Glucose
   83
   86
   93
   83
   108
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:26/43, Alk Phos / T Bili:186/2.0,
   Amylase / Lipase:21/14, Differential-Neuts:88.9 %, Band:0.0 %,
   Lymph:3.1 %, Mono:7.5 %, Eos:0.5 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:786 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   61yom refractory multiple myeloma, admitted on [**2165-2-25**], and now with
   sepsis and massive GI bleeding.
   RESPIRATORY FAILURE -- persistent.  Multifactorial.  Continue
   mechanical ventilator support.  Hope to work towards SBT and extubation
   trial -- main obstacles to extubation include volume overload,
   sedation.
   GI BLEED -- severe bleed, attributed to large DU.  No further
   intervention.  No plans for escalation of care, including no massive
   blood products. Plan to wean steroids, continue nutritional support.
   No plans for surgery.  Continue gancyclovir for possible CMV
   duodenitis.
   BACTEREMIA -- Continued enterococcus bacteremia resistant to vancomycin
   --> Linezolid and gent for VRE, continue [**Name (NI) 9261**] (pt now
   desensitized), Cipro
   ANEMIA -- attributed predominately to GI blood loss.  No further
   escalation of care, including no massive transfusion with blood
   products.
   THROMBOCYTOPENIA -- transfuse to maintain plts >20
   FLUIDS -- total body overloaded due to ressusitation .  Desire net
   negative if tolerates.  Maximally concentrate all iv meds.
   NUTRITIONAL SUPPORT -- TPN.
   GVHD -- continue usual meds.  Now on lower dose steroids.
   RASH -- on hands --> ?sloughing of skin vs active GVHD
   RENAL FAILURE -- monitor creatinine.  At risk for ATN.
   LFT abnormalities -- likely cholestatic picture with transaminitis of
   unclear etiology.
   SACRAL DECUBITUS ULCER -- Wound care.
   DISPOSITION -- Per discussion with wife, no escalation of care
   (incuding no blood products) and DNR (no CPR).  In the event of
   clinical decline, transition to comfort care.  Continue current level
   of care.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-3**] 06:30 PM 92 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition : ICU
   Total time spent:  45 minutes

2165-07-05 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ID: continue linezolid; if WBC continues to decrease - will change
   back to daptomycin. d/c gancyclovir b/c decreasing WBC correlates with
   time course. will continue linezolid for now b/c VRE not as responsive
   to dapto in past.
   -Hem Onc: If leukopenia worse in AM, d/c gancyclovir; also, change
   linezolid to daptomycin if leukopenia worse; rash on hands not felt to
   be GVHD. Decrease methylprednisone to 10mg IV BID.
   -OGT replaced; in good location
   -Diuresis: approx even at 1800. Increased lasix to 20mg/hr at 2200 ->
   UOP increased to 200cc/hr. Pt -525cc at 0700. Then, transfused 1 unit
   platelets (18 -->  )
   -Had nickel sized black stool this AM
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2165-7-3**] 04:00 PM
   Erythromycin - [**2165-7-4**] 06:00 AM
   Gancyclovir - [**2165-7-4**] 08:30 AM
   Ciprofloxacin - [**2165-7-4**] 10:00 PM
   Linezolid - [**2165-7-5**] 01:28 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Furosemide (Lasix) - 18 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2165-7-5**] 02:21 AM
   Fentanyl - [**2165-7-5**] 03:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-7-5**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.8
C (96.5
   HR: 105 (104 - 123) bpm
   BP: 118/66(81) {112/66(81) - 189/181(327)} mmHg
   RR: 18 (6 - 28) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                  4,387 mL
                                                                  1,323 mL
   PO:
             TF:
   IVF:
                                                                  2,178 mL
                                                                    640 mL
   Blood products:
   Total out:
                                                                  4,130 mL
                                                                  1,795 mL
   Urine:
                                                                  3,670 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
                                                                    460 mL
                                                                    275 mL
   Balance:
                                                                    257 mL
                                                                   -472 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 25 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 9 L/min
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, feet warm with pulses dopplerable
   Labs / Radiology
   18 K/uL
   10.0 g/dL
   93 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   114 mg/dL
   102 mEq/L
   135 mEq/L
   28.0 %
   1.5 K/uL
        [image002.jpg]
                             [**2165-7-1**]  04:23 AM
                             [**2165-7-2**]  03:31 AM
                             [**2165-7-2**]  04:47 PM
                             [**2165-7-2**]  09:49 PM
                             [**2165-7-3**]  03:30 AM
                             [**2165-7-3**]  04:47 PM
                             [**2165-7-3**]  06:55 PM
                             [**2165-7-4**]  03:52 AM
                             [**2165-7-4**]  04:28 PM
                             [**2165-7-5**]  04:27 AM
   WBC
   2.3
   2.3
   2.4
   2.1
   1.8
   1.6
   1.5
   Hct
   30.8
   29.4
   29.4
   28.4
   27.0
   29.2
   31.1
   28.0
   Plt
   61
   23
   21
   65
   60
   34
   26
   24
   18
   Cr
   1.4
   1.6
   1.5
   1.6
   1.8
   1.7
   1.8
   1.7
   Glucose
   83
   86
   93
   83
   108
   103
   93
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:25/38, Alk Phos / T Bili:201/2.0,
   Amylase / Lipase:21/14, Differential-Neuts:88.9 %, Band:0.0 %,
   Lymph:3.1 %, Mono:7.5 %, Eos:0.5 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:1.6 g/dL, LDH:738 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   .
   Granulocyte count: 1240
   Gent: pending
   .
   [**6-26**], [**6-27**], [**6-28**] BCx: neg
   CMV Viral load: neg
   .
   [**7-4**] CXR: The transparency of the lung parenchyma has increased. The
   position of the right PICC line and the internal jugular vein catheter
   is unchanged. Also unchanged is the position of the endotracheal tube.
   The nasogastric tube in good position (per second film). Moderate
   cardiomegaly, right upper lobe opacity that could reflect infection.
   Retrocardiac atelectasis. Moderate overhydration. Blunting of the left
   costophrenic sinus could be caused by small pleural effusion.
   Assessment and Plan
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] with atrial fibrillation with RVR and hemorragic shock due to
   large duodenal ulcer.
   .
   # Hemorrhagic shock:  Stable. No episdoes of bleeding since [**6-30**] and
   SBP stable in 110s. Due to 8cm bleeding duodenal ulcer, possibly due to
   CMV duodenitis.
   - continue methylprednisone at 10mg [**Hospital1 7**] (decreased from 20/10
   yesterday) in effort to decrease steroids to assist with ulcer healing
   - s/p ganciclovir to empirically treat possible CMV duodenitis (stopped
   [**12-17**] lowering WBC count)
   - no pressors, blood products, IR, surgery, chest compressions
   .
   # Sepsis: Resolving. BCx [**6-26**], [**6-27**], [**6-28**] all negative. SBP stable. ID
   following, antibiotic regimen adjusted as per ID recommendations
   - Continue Linezolid for VRE as this is known source. Pt will likely
   need prolonged abx course.
   - Continue Cipro 400mg IV daily (day 13/15) for pseudomonas in sputum
   and blood
   - HOLD gentamicin until levels <2
   - completed 14 day course of Meropenem for ESBL E. coli in his urine
   .
   # Respiratory failure: Most likely due to volume overload, decreased
   chest compliance given anasarca. Pt has been doing well on AC.
   - Continue AC ventilator
   .
   # Acute renal failure: creatinine stable at 1.7 today. Likely from
   hypotensive episodes during hemorrhagic shock but also suspecting some
   component of ATN.  Gentamicin toxicity may also be a cause.
   - hold gentamicin until levels <2
   .
   # Anasarca: Pt received a lot of blood products and IVF for the shock
   and acute bleeds. Finally negative this AM on lasix drip.
   - diurese with lasix for net fluid balance of negative every hour.
   - if not negative, will consider starting diurel to help with diuresis
   - check PM electrolytes
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic. Not currently
   written for any rate control medications.
   -Will add beta blocker once pt is absorbing POs again.
   -Monitor HR
 may consider diltiazem IV
   .
   # Anemia: Due to massive GI bleed. Hct currently stable. No bleeds
   since [**6-30**]. Pt s/p two IR sessions of embolization after massive GI
   bleeds with likely source being duodenal ulcer.  Patient received 7
   units pRBCs [**6-27**], 2 units [**6-28**], 19 units [**2072-6-28**].
   - trend CBC daily
   - no blood products as per family wishes
   .
   # Thrombocytopenia
 platelets down to 18 this AM (with 1 unit of
   platelets ordered).  Patient
s wife has agreed to no further blood
   products, but the overall impression is for us not to perform massive
   transfusion in setting of another massive acute bleed.  Patient is NOT
   comfort measures only, wife only agreed to no escalation of care.  By
   allowing platelets to continue its downward trend, it would precipitate
   the next massive bleeding episode.
   - For now, will transfuse to goal of plt >20 until further goals of
   care are discussed with family.
   - Check PM platelets
   .
   # Hyperglycemia
   - on TPN with insulin
   - continue ISS
   .
   # LFT abnormalities: With e/o cholestatic picture. DDx include
   hemolysis, acalculous cholecystits, med effect (gancyclovir gives
   transaminitis), progression of GVHD to liver.
   - trend LFTs
   .
   #. Multiple myeloma - admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
 have decreased steroids in effort to help
   ulcer healing
   - cont ppx with atovaquone, ganciclovir & voriconazole, although pt not
   currently getting PO meds due to poor absorption.
   .
   # Sacral decubitus ulcer: Stage 3.
   - Wound care
   .
   # Goals of care:
    -DNR with no pressors, blood products, chest compressions, IR,
   surgery.  No escalation of care.  If he starts bleeding again, will
   become comfort measures only with increased pain medication as needed.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-4**] 07:00 PM 92 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Wife [**Name (NI) 6517**]
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition: ICU

2165-07-05 11:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   REmains intubated, mechanically ventilated.
   Remains on lasix constant infusion.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Sedated, ETT
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2165-7-3**] 04:00 PM
   Erythromycin - [**2165-7-4**] 06:00 AM
   Gancyclovir - [**2165-7-4**] 08:30 AM
   Ciprofloxacin - [**2165-7-4**] 10:00 PM
   Linezolid - [**2165-7-5**] 01:28 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2165-7-5**] 10:04 AM
   Midazolam (Versed) - [**2165-7-5**] 10:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss,
   hypothermia
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2165-7-5**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.6
   Tcurrent: 35.7
C (96.2
   HR: 111 (104 - 127) bpm
   BP: 131/79(244) {111/61(75) - 147/99(244)} mmHg
   RR: 19 (6 - 28) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
          Total In:
                                                                  4,387 mL
                                                                  2,136 mL
   PO:
          TF:
   IVF:
                                                                  2,178 mL
                                                                    933 mL
   Blood products:
   198 mL
   Total out:
                                                                  4,130 mL
                                                                  3,055 mL
   Urine:
                                                                  3,670 mL
                                                                  2,270 mL
   NG:
   300 mL
   Stool:
   Drains:
                                                                    460 mL
                                                                    485 mL
   Balance:
                                                                    257 mL
                                                                   -919 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 34 cmH2O
   Plateau: 27 cmH2O
   SpO2: 99%
   ABG: 7.36/44/152/22/0
   Ve: 9 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, anasarca
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, No(t) Distant, No(t) Loud, No(t) Widely
   split , No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t)
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: 4+, Left lower extremity
   edema: 4+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed, opens eyes to voice
   Labs / Radiology
   10.0 g/dL
   53 K/uL
   93 mg/dL
   1.7 mg/dL
   22 mEq/L
   3.9 mEq/L
   114 mg/dL
   102 mEq/L
   135 mEq/L
   28.0 %
   1.5 K/uL
        [image002.jpg]
                             [**2165-7-2**]  04:47 PM
                             [**2165-7-2**]  09:49 PM
                             [**2165-7-3**]  03:30 AM
                             [**2165-7-3**]  04:47 PM
                             [**2165-7-3**]  06:55 PM
                             [**2165-7-4**]  03:52 AM
                             [**2165-7-4**]  04:28 PM
                             [**2165-7-5**]  04:27 AM
                             [**2165-7-5**]  09:35 AM
                             [**2165-7-5**]  09:45 AM
   WBC
   2.4
   2.1
   1.8
   1.6
   1.5
   Hct
   29.4
   28.4
   27.0
   29.2
   31.1
   28.0
   Plt
   21
   65
   60
   34
   26
   24
   18
   53
   Cr
   1.5
   1.6
   1.8
   1.7
   1.8
   1.7
   TCO2
   26
   Glucose
   93
   83
   108
   103
   93
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:25/38, Alk Phos / T Bili:201/2.0,
   Amylase / Lipase:21/14, Differential-Neuts:88.9 %, Band:0.0 %,
   Lymph:3.1 %, Mono:7.5 %, Eos:0.5 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:738 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   61yom refractory multiple myeloma, admitted on [**2165-2-25**], and now with
   sepsis and massive GI bleeding.
   RESPIRATORY FAILURE -- persistent.  Multifactorial, including volume
   resussitation overload/anasarca, sedation.  Continue mechanical
   ventilator support.  Hope to work towards SBT and extubation trial --
   main obstacles to extubation include volume overload, sedation.  Need
   to discuss possible trach to continue current level of care
   (anticipating prolonged mechanical ventilation).
   GI BLEED -- severe bleed, attributed to large DU.  No further
   intervention.  No plans for escalation of care, including no massive
   blood products. Plan to wean steroids, continue nutritional support.
   No plans for surgery.  Now off gancyclovir, as no evidence for CMV
   infection.
   BACTEREMIA -- Continued enterococcus bacteremia resistant to vancomycin
   --> Linezolid and gent for VRE, continue [**Name (NI) 9261**] (pt now
   desensitized), Cipro
   ANEMIA -- attributed predominately to GI blood loss.  No further
   escalation of care, including no massive transfusion with blood
   products.
   THROMBOCYTOPENIA -- transfuse to maintain plts >20
   FLUIDS -- total body overloaded due to ressusitation .  Desire net
   negative if tolerates.  Maximally concentrate all iv meds.
   NUTRITIONAL SUPPORT -- TPN.
   GVHD -- continue usual meds.  Now on lower dose steroids.
   RASH -- on hands --> ?sloughing of skin vs active GVHD.  Monitor
   RENAL FAILURE -- Continues with good response to lasix.  Monitor
   creatinine.  At risk for ATN.
   LFT abnormalities -- likely cholestatic picture with transaminitis of
   unclear etiology.
   SACRAL DECUBITUS ULCER -- Wound care.
   DISPOSITION -- Per discussion with wife, no escalation of care
   (incuding no blood products) and DNR (no CPR).  In the event of
   clinical decline, transition to comfort care.  Continue current level
   of care.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-4**] 07:00 PM 92 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Extensive discussion with wife, updated medical progress and answered
   all questions.  Plan to continue at current level of care.  Remains
   DNR.  Transfusion of blood products OK, but massive transfusion in the
   event of hemodynamically compromising hemorrhage will not be pursued.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2165-7-5**] 18:33 ------

2165-07-06 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - passed melenotic stools this AM and new blood found via OG tube
   - family goals of care unchanged
   - negative 900 cc yesterday
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2165-7-3**] 04:00 PM
   Erythromycin - [**2165-7-4**] 06:00 AM
   Gancyclovir - [**2165-7-4**] 08:30 AM
   Ciprofloxacin - [**2165-7-5**] 09:08 PM
   Linezolid - [**2165-7-6**] 12:27 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Other ICU medications:
   Fentanyl - [**2165-7-5**] 02:00 PM
   Midazolam (Versed) - [**2165-7-5**] 02:00 PM
   Carafate (Sucralfate) - [**2165-7-6**] 02:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-7-6**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (96.9
   HR: 110 (107 - 128) bpm
   BP: 122/66(82) {93/48(62) - 139/136(244)} mmHg
   RR: 18 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                  4,659 mL
                                                                  1,310 mL
   PO:
             TF:
   IVF:
                                                                  2,189 mL
                                                                    650 mL
   Blood products:
                                                                    198 mL
   Total out:
                                                                  5,565 mL
                                                                  1,750 mL
   Urine:
                                                                  4,560 mL
                                                                  1,400 mL
   NG:
                                                                    300 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    705 mL
                                                                    200 mL
   Balance:
                                                                   -906 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/44/152/23/0
   Ve: 9.5 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General- Intubated, sedated, increased anasarca, NAD
   Lungs- Bilateral expiratory wheezing anteriorly and laterally;
   posterior not assessed
   Heart- soft S1, S2, no m/r/g, A.fib with tachycardia
   Abd- BS weak, soft, non-distended
   Ext- 4+ pitting edema diffusely, feet warm with pulses dopplerable
   Labs / Radiology
   24 K/uL
   9.2 g/dL
   113 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   119 mg/dL
   99 mEq/L
   133 mEq/L
   25.3 %
   1.3 K/uL
        [image002.jpg]
                             [**2165-7-3**]  03:30 AM
                             [**2165-7-3**]  04:47 PM
                             [**2165-7-3**]  06:55 PM
                             [**2165-7-4**]  03:52 AM
                             [**2165-7-4**]  04:28 PM
                             [**2165-7-5**]  04:27 AM
                             [**2165-7-5**]  09:35 AM
                             [**2165-7-5**]  09:45 AM
                             [**2165-7-5**]  04:00 PM
                             [**2165-7-6**]  02:32 AM
   WBC
   2.4
   2.1
   1.8
   1.6
   1.5
   1.3
   Hct
   29.4
   28.4
   27.0
   29.2
   31.1
   28.0
   25.3
   Plt
   60
   34
   26
   24
   18
   53
   33
   24
   Cr
   1.6
   1.8
   1.7
   1.8
   1.7
   1.9
   1.9
   TCO2
   26
   Glucose
   93
   83
   108
   103
   93
   79
   113
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:20/32, Alk Phos / T Bili:197/1.8,
   Amylase / Lipase:21/14, Differential-Neuts:88.9 %, Band:0.0 %,
   Lymph:3.1 %, Mono:7.5 %, Eos:0.5 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:648 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   CMV
 undetectable
   BCx ([**6-26**], [**6-27**], [**6-28**])
 neg
   Gentamicin level
 4.3
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 BACTEREMIA
 ATRIAL FIBRILLATION (AFIB)
   61 year old gentleman with refractory multiple myeloma admitted on
   [**2165-2-25**] with atrial fibrillation with RVR and hemorragic shock due to
   large duodenal ulcer.
   .
   # Hemorrhagic shock:  Patient found to have melenotic stools this
   morning and new blood from OG tube.  Hemodynamics have been stable
   since the finding of new GI bleeding this AM so far.   Likely bleeding
   from the same 8cm duodenal ulcer.  Family notified
   - as per family wishes, no blood products in setting of large GI bleed
   - continue methylprednisone at 10mg [**Hospital1 7**] (decreased from 20/10
   yesterday) in effort to decrease steroids to assist with ulcer healing
   - s/p ganciclovir to empirically treat possible CMV duodenitis (stopped
   [**12-17**] lowering WBC count)
   - no pressors, blood products, IR, surgery, chest compressions
   - will check PM CBC and coags if bleeding subsides
   .
   # Sepsis: Resolving. BCx [**6-26**], [**6-27**], [**6-28**] all negative. SBP stable. ID
   following, antibiotic regimen adjusted as per ID recommendations
   - Continue Linezolid for VRE as this is known source. Pt will likely
   need prolonged abx course.
   - Continue Cipro 400mg IV daily (day 14/15) for pseudomonas in sputum
   and blood
   - HOLD gentamicin until levels <2
   - completed 14 day course of Meropenem for ESBL E. coli in his urine
   .
   # Respiratory failure: Most likely due to volume overload, decreased
   chest compliance given anasarca. Pt has been doing well on AC.
   - Continue AC ventilator
   - hold lasix drip for now in light of recurrent GI bleed
   - if GI bleed resolves, will continue with plan to diurese
   .
   # Acute renal failure: creatinine trending up to 1.9 today. Likely from
   hypotensive episodes during hemorrhagic shock but also suspecting some
   component of ATN.  Gentamicin toxicity may also be a cause.
   - hold gentamicin until levels <2
   - continue to monitor creatinine
   .
   # Anasarca: Pt received a lot of blood products and IVF for the shock
   and acute bleeds. Finally negative this AM on lasix drip.
   - hold lasix due to GI bleeding
   - if bleeding resolves, plan to diurese with lasix for net fluid
   balance of negative every hour.
   - check PM electrolytes
   .
   # Atrial fibrillation with RVR:  Pt remains tachycardic. Not currently
   written for any rate control medications.
   -Will add beta blocker once pt is absorbing POs again.
   -Monitor HR
 may consider diltiazem IV
   .
   # Anemia: Due to massive GI bleed. Will follow hct and VS closely today
   because of recurrent GI bleed. Prior to today, pt has not had bleeding
   since [**6-30**]. Pt s/p two IR sessions of embolization after massive GI
   bleeds with likely source being duodenal ulcer.  Patient received 7
   units pRBCs [**6-27**], 2 units [**6-28**], 19 units [**2072-6-28**].
   - no blood products as per family wishes
   .
   # Thrombocytopenia
 platelets at 24 this AM. Patient
s wife has agreed
   to no further blood products, but the overall impression is for us not
   to perform massive transfusion in setting of another massive acute
   bleed.  Patient is NOT comfort measures only, wife only agreed to no
   escalation of care.  By allowing platelets to continue its downward
   trend, it would precipitate the next massive bleeding episode.
   - No platelets today in light of recurrent GI bleed
   - if bleeding resolves, will continue to transfuse to goal of plt >20
   - Check PM platelets
   .
   # Hyperglycemia
   - on TPN with insulin
   - continue ISS
   .
   # LFT abnormalities: With e/o cholestatic picture. DDx include
   hemolysis, acalculous cholecystits, med effect (gancyclovir gives
   transaminitis), progression of GVHD to liver.
   - trend LFTs
   .
   #. Multiple myeloma - admitted on [**2165-2-25**] now s/p mini-allogeneic SCT:
   His course has been extremely complicated and now with increasing
   immunosuppression for GVHD.  Per BMT, currently in remission.
   - appreciate BMT recs
   - cont immunosuppressants
 have decreased steroids in effort to help
   ulcer healing
   - cont acyclovir
   .
   # Sacral decubitus ulcer: Stage 3.
   - Wound care
   .
   # Goals of care:
    -DNR with no pressors, blood products, chest compressions, IR,
   surgery.  No escalation of care.  If he starts bleeding again, will
   become comfort measures only with increased pain medication as needed.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-5**] 06:05 PM 84 mL/hour
   Glycemic Control:  ISS
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:  bundle
   Comments:
   Communication:  Comments: Wife [**Name (NI) 6517**]
   [**Name (NI) 36**] status: DNR (do not resuscitate)
   Disposition: ICU

2165-07-06 10:50:00 Physician Attending Progress Note
Chief Complaint: GIB, respiratory failure, massive volume overload,
   resolving septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Complicated mult myeloma patient s/p 1 failed BMT and 1 successful
   allo-BMT [**2-21**], here since then (>120 days) with 6 [**Hospital Unit Name 1**] admissions
   throughout, course c/b GVHD, bacteremia with septic shock and 4
   massive GIBs.
   24 Hour Events:
   Clinical evidence for GIB restarting this morning while on rounds
   (hematemesis and melena for now
 blood pressure stable currently)
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Meropenem
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2165-7-3**] 04:00 PM
   Erythromycin - [**2165-7-4**] 06:00 AM
   Gancyclovir - [**2165-7-4**] 08:30 AM
   Ciprofloxacin - [**2165-7-5**] 09:08 PM
   Linezolid - [**2165-7-6**] 12:27 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Fentanyl (Concentrate) - 225 mcg/hour
   Furosemide (Lasix) - 20 mg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2165-7-5**] 02:00 PM
   Midazolam (Versed) - [**2165-7-5**] 02:00 PM
   Carafate (Sucralfate) - [**2165-7-6**] 02:44 AM
   Other medications:
   mycophenalate
   chlorhex
   linezolid
   cipro
   protonix gtt
   insulin gtt
   lasix gtt
   solumedrol 10 [**Hospital1 **]
   carafate
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unable to obtain
   Flowsheet Data as of  [**2165-7-6**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 112 (104 - 128) bpm
   BP: 116/62(78) {93/48(62) - 139/136(184)} mmHg
   RR: 18 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.5 kg (admission): 137.2 kg
             Total In:
                                                                  4,659 mL
                                                                  1,875 mL
   PO:
             TF:
   IVF:
                                                                  2,189 mL
                                                                    943 mL
   Blood products:
                                                                    198 mL
   Total out:
                                                                  5,565 mL
                                                                  2,930 mL
   Urine:
                                                                  4,560 mL
                                                                  2,430 mL
   NG:
                                                                    300 mL
                                                                    150 mL
   Stool:
   Drains:
                                                                    705 mL
                                                                    350 mL
   Balance:
                                                                   -906 mL
                                                                 -1,055 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 9.4 L/min
   Physical Examination
   Intubated/sedated
 not opening eyes, but moves to tactile stimulus
   Hematemesis draining from OGT, melena from bottom
   Massive anasarca
 somewhat improved from yesterday?
   Irregularly irregular with tachycardia
   Lungs with diffuse expiratory wheezing and palpable rhonchi
   Abdomen obese, no bowel sounds
   Extremities remain warm
   Labs / Radiology
   9.2 g/dL
   24 K/uL
   113 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   119 mg/dL
   99 mEq/L
   133 mEq/L
   25.3 %
   1.3 K/uL
        [image002.jpg]
                             [**2165-7-3**]  03:30 AM
                             [**2165-7-3**]  04:47 PM
                             [**2165-7-3**]  06:55 PM
                             [**2165-7-4**]  03:52 AM
                             [**2165-7-4**]  04:28 PM
                             [**2165-7-5**]  04:27 AM
                             [**2165-7-5**]  09:35 AM
                             [**2165-7-5**]  09:45 AM
                             [**2165-7-5**]  04:00 PM
                             [**2165-7-6**]  02:32 AM
   WBC
   2.4
   2.1
   1.8
   1.6
   1.5
   1.3
   Hct
   29.4
   28.4
   27.0
   29.2
   31.1
   28.0
   25.3
   Plt
   60
   34
   26
   24
   18
   53
   33
   24
   Cr
   1.6
   1.8
   1.7
   1.8
   1.7
   1.9
   1.9
   TCO2
   26
   Glucose
   93
   83
   108
   103
   93
   79
   113
   Other labs: PT / PTT / INR:13.9/33.2/1.2, CK / CKMB /
   Troponin-T:28/6/0.18, ALT / AST:20/32, Alk Phos / T Bili:197/1.8,
   Amylase / Lipase:21/14, Differential-Neuts:88.9 %, Band:0.0 %,
   Lymph:3.1 %, Mono:7.5 %, Eos:0.5 %, Fibrinogen:150 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:1.6 g/dL, LDH:648 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 rebleeding today.
   Plan was to not reintiate massive transfusion protocol if patient were
   to have massive GIB (ie. Hemorrhagic shock)
 we had been transfusing
   with blood products for other parameters.  Lasix gtt stopped.  Family
   called and is now at bedside. Patient appears comfortable and is still
   maintaining pressure.  Plan to transfuse in current clinical setting.
   If evolves to massive GI bleed, will transition towards comfort.
   Awaiting 2^nd opinion Surgical Consultation (Dr. [**Last Name (STitle) 527**] regarding
   possibility of surgical options in the event of continued bleed.
 IMPAIRED SKIN INTEGRITY
 stage 3 sacral decub
 very impaired
   healing ability given hypoalbuminemia and co-morbidities and relative
   volume overload. Wound care.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 continues to
   worsen. Likely ATN from repeated hypotensive episodes with each bleed
   and massive transfusions. Could have also been secondary to gent
   toxicity. Urine output good on lasix gtt, but holding for now given
   bleed.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 difficult to wean given
   massive volume overload. We were attempting to diurese to optimize
   respiratory mechanics. No evidence of active infection at this time.
   Can restart if bleeding stops.
 BACTEREMIA
 no further positive blood cultures. Approaching end of
   antibiotic course. Remains afebrile.
 ATRIAL FIBRILLATION (AFIB)
 very difficult to rate control. Monitor
   on tele.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2165-7-5**] 06:05 PM 84 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2165-6-26**] 02:16 PM
   Arterial Line - [**2165-6-27**] 03:18 PM
   PICC Line - [**2165-6-28**] 12:54 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   Extensive discussion with patient
s wife and sister-in-law in the
   presence of nursing and Dr. [**Last Name (STitle) 21**] (patient
s Oncologist).  [**Hospital **]
   hospital course.  Updated medical condition.  Patient
s wife states
   that with the development of recurrent GI bleeding necessitating
   transfusions, and overall poor progress during current hospitalization,
   state
s that patient would not want to continue further, and would like
   to transition goals of care to focus on comfort.  All present in
   agreement with plans to transition to comfort care.  Will move to
   discontinue all interventions (including extubation) while continuing
   to provide pain relief.
   Total time in meeting:  65 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 668**] [**Last Name (NamePattern1) **], MD
   on:[**2165-7-6**] 18:23 ------